2168-12-02 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * Returned to [**Location **] w/high fever and white count, less responsive on
       [**12-1**]. Re-intubated, fever to 104 in ED, copious purulent
       secretions on intubation and RLL consolidation on CT.  On levophed
       from ed b/c BP dropped around intubation. Patient dry by exam and
       labs upon arrival.
     * UCx, Sputum Cx, Blood Cx sent.
     * CT chest/abd/pelvis: IMPRESSION: 1. Compared to prior exam from
       [**2168-11-15**] there is worsening consolidation of the right
       lower lobe. Streaky opacity within the left lung base is unchanged.
       2. Extensive pleural thickening with calcified pleural plaques most
       compatible with prior asbestos exposure. 3. Small fat containing
       umbilical hernia. 4. Side port of NG tube is at the GE junction.
       Recommend advancing for optimal placement.
     * Head CT w/no ICH
     * A-line in
     * Picc line pulled, R IJ started
     * Levophed on overnight
     * INR 1.9 -> gave Vitamin K b/c of some blood in NG tube
     * DIC labs sent
     * Lactate 1 -> 2.5 -> 0.8
     * Hypernatremic so started free water boluses
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Antibiotics:
   Meropenem
   Vancomycin
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-12-1**] 11:50 PM
   Pantoprazole (Protonix) - [**2168-12-2**] 04:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to assess
   Flowsheet Data as of  [**2168-12-2**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.4
C (101.2
   HR: 104 (99 - 119) bpm
   BP: 106/49(65) {71/41(60) - 158/84(99)} mmHg
   RR: 19 (18 - 120) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 10 (6 - 14)mmHg
   Total In:
                                                                  1,757 mL
                                                                  1,379 mL
   PO:
   TF:
   IVF:
                                                                  1,667 mL
                                                                  1,319 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                    210 mL
   Urine:
                                                                     75 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,682 mL
                                                                  1,169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   SpO2: 97%
   ABG: 7.45/45/155/30/7
   Ve: 9.2 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Gen: sedated and intubated
   HEENT: No scleral icterus. MM slightly dry, OP clear, ET tube in place
   NECK: supple, no LAD, R IJ in place
   CV: RRR, 2/6 systolic murmur at the LUSB
   LUNGS: breath sounds diminished bilaterally, B/L inspiratory and
   expiratory rhoncorous breath sounds
   ABD: obese, normoactive bowel sounds, soft with reducible small
   umbilical hernia, apparently nontender throughout
   EXT: warm, dry skin on feet, DP and radial pulses 2+ bilaterally, no
   peripheral edema
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Intubated and sedated. No eye opening to voice or sternal rub.
   Oculocephalic reflex intact. Intermittent rhythmic tremor or left>right
   hand. Does not withdraw to pain in all four extremities.  Slight
   increase in tone in upper extremities>lower extremities.
   Labs / Radiology
   255 K/uL
   10.1 g/dL
   145 mg/dL
   2.4 mg/dL
   30 mEq/L
   3.0 mEq/L
   40 mg/dL
   108 mEq/L
   149 mEq/L
   31.1 %
   21.8 K/uL
        [image002.jpg]
                            [**2168-12-1**]  04:25 PM
                            [**2168-12-1**]  06:44 PM
                            [**2168-12-1**]  10:24 PM
                            [**2168-12-2**]  02:00 AM
                            [**2168-12-2**]  02:06 AM
   WBC
   21.8
   Hct
   31.1
   Plt
   255
   Cr
   2.4
   TropT
   0.09
   TCO2
   34
   34
   32
   32
   Glucose
   145
   Other labs:
   PT / PTT / INR:20.5/48.7/1.9, CK / Troponin-T:55/0.09 (from 32/0.04)
   Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   UA: RBC, moderate bacteria
   Sputum Gram Stain: 3+ GNR
   Chest CT w/ RLL consolidation, Head CT negative for ICH
   A/P: This is a 66 y/o man with PMH notable for type 2 DM, HTN, recent
   subdural hematoma, recent strep bovis/MRSA/enterococcus bacteremia and
   recent admission to the MICU for altered mental status and pneumonia
   presenting to the ED with respiratory distress and altered mental
   status.
   .
   #1 Shock, likely septic in origin: Patient's blood pressures on a line
   are higher than cuff and we are actively weaning his levophed.
   Currently on 0.03 Given that BPs declined after meds for intubation,
   patient likely volume deplete.  Patient received approximately 5L NS
   between ED and MICU stay. Has central venous access and arterial line
   for close monitoring. Received vanc/zosyn in ED -> switched to
   meropenem in MICU per ID request.  CT w/consolidation RLL and copious
   sputum upon suctioning in ED and in MICU.  Unresolved pna from prior
   admission (acinetobacter= pna source v colonization) vs new pna
   (possibly aspiration due to change in mental status?)
   - transduce a line continuously
   - maintain CVP > or = 10 with NS boluses
   - pressors to maintain MAP > 60 (currently on levophed, weaning down)
   - follow blood, urine, and sputum Cx
   - continue vanc & meropenem as discussed with ID team
   - serial EKGs and enzymes though suspect that elevated troponin and EKG
   changes related to shock/low BP/demand ischemia
   .
   #2 Altered mental status: Likely related to underlying infection/shock;
   of note he has had multiple prior similar episodes with recent
   infections (bacteremia, pneumonia). Was also notably hypernatremic,
   likely due to combination of Lasix and poor PO intake after
   extubatoin.  Head CT shows no acute changes and exam at this point is
   nonfocal.  To keep in mind that patient had new embolic CVA on MRI
   during last admission, although neuro commented at that time that the
   area affected should not significantly affect his mental status.
   - monitor mental status
   - consider repeat MRI if focal neurologic deficits develop
   .
   #3 Respiratory failure: Intubated on arrival; had desat to 80s at rehab
   facility with ABG documenting pO2 in the 40s. Could be secondary to new
   pneumonia/infectious process or worsening of prior pneumonia which
   seems unlikely given broad coverage and protracted course with acute
   decompensation. Likely an aspiration event or inability to handle
   secretions with mucous plugging as mental status waned.  Demonstrated
   insufficient cough effort after extubation during prior admission.
   - wean ventilator as tolerates by ABGs
   - treat for possible pulmonary source as above
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs
   .
   # Acute on chronic renal insufficiency: Recent creatinine levels here
   1.6-2 with current level now 2.4. Continue to monitor. Suspect that
   slight elevation currently due to hypovolemia/shock.
   - PM electrolytes today after fluid resuscitation.
   - monitor creatinine daily
   .
   # Hypernatremia: Likely related to hypovolemia due to poor PO intake at
   rehab.
   - volume repletion, including free water flushes in tube feeds
   - once euvolemic, re-evaluate for ? D5w needs versus NG flushes
   .
   # INR elevation: Likely nutritional given protracted ICU stay. One dose
   of vitamin K given for repletion.
   - DIC labs pending
   - Consider additional doses of Vitamin K
   .
   # UGI bleed: small amount of coffee ground like secretions from NG
   tube. INR elevated, in setting of likely septic shock, concern for DIC.
   - DIC labs as above
   - vitamin K given
   - follow coags
   - PPI to [**Hospital1 **]
   .
   # Type 2 DM:
   - fingersticks four times daily
   - sliding scale insulin
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis:
   - continue vancomycin (Planned course until [**12-21**])
   - follow blood cultures
   .
   # Parkinson's disease: Continue carbidopa/levodopa and ropinirole.
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Starting tube feeds as per nutrition recs from prior admission.
   Repleting electrolytes as needed.
   .
   # PPx: PPI [**Hospital1 **], bowel regimen, heparin SC TID
   .
   # ACCESS: R IJ CVL, right A line, PIV
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: ICU care for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-12-1**] 06:00 PM
   Multi Lumen - [**2168-12-1**] 06:30 PM
   Arterial Line - [**2168-12-1**] 06:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-03 05:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - NGT removed, OGT placed, TF resumed
   - PEEP decreased from 12 to 10
   - DIC labs negative; CKs flat
   - ordered for vitamin K
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2168-12-2**] 12:00 AM
   Vancomycin - [**2168-12-2**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-12-2**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2168-12-3**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-3**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.9
C (98.5
   HR: 80 (78 - 109) bpm
   BP: 110/52(71) {88/45(58) - 139/70(93)} mmHg
   RR: 19 (8 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (6 - 10)mmHg
   Total In:
                                                                  4,700 mL
                                                                    851 mL
   PO:
   TF:
                                                                    306 mL
                                                                    346 mL
   IVF:
                                                                  3,374 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    470 mL
   Urine:
                                                                  1,060 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,640 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 8.8 L/min
   Physical Examination
   Gen: sedated and intubated
   HEENT: No scleral icterus. MM slightly dry, OP clear, ET tube in place
   NECK: supple, no LAD, R IJ in place
   CV: RRR, 2/6 systolic murmur at the LUSB
   LUNGS: breath sounds diminished bilaterally, B/L inspiratory and
   expiratory rhoncorous breath sounds
   ABD: obese, normoactive bowel sounds, soft with reducible small
   umbilical hernia, apparently nontender throughout
   EXT: warm, dry skin on feet, DP and radial pulses 2+ bilaterally, no
   peripheral edema
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Intubated and sedated. No eye opening to voice or sternal rub.
   Oculocephalic reflex intact. Intermittent rhythmic tremor or left>right
   hand. Does not withdraw to pain in all four extremities.  Slight
   increase in tone in upper extremities>lower extremities.
   Labs / Radiology
   166 K/uL
   8.4 g/dL
   175 mg/dL
   2.3 mg/dL
   31 mEq/L
   3.3 mEq/L
   39 mg/dL
   107 mEq/L
   144 mEq/L
   26.2 %
   11.4 K/uL
        [image002.jpg]
                            [**2168-12-1**]  04:25 PM
                            [**2168-12-1**]  06:44 PM
                            [**2168-12-1**]  10:24 PM
                            [**2168-12-2**]  02:00 AM
                            [**2168-12-2**]  02:06 AM
                            [**2168-12-2**]  07:55 AM
                            [**2168-12-2**]  02:56 PM
                            [**2168-12-3**]  02:38 AM
   WBC
   21.8
   11.4
   Hct
   31.1
   26.2
   Plt
   255
   166
   Cr
   2.4
   2.4
   2.3
   TropT
   0.09
   0.07
   TCO2
   34
   34
   32
   32
   Glucose
   145
   141
   175
   Other labs: PT / PTT / INR:16.8/42.9/1.5, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:88.7 %, Lymph:7.9 %, Mono:2.9
   %, Eos:0.3 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic Acid:0.8
   mmol/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   A/P: This is a 66 y/o man with PMH notable for type 2 DM, HTN, recent
   subdural hematoma, recent strep bovis/MRSA/enterococcus bacteremia and
   recent admission to the MICU for altered mental status and pneumonia
   presenting to the ED with respiratory distress and altered mental
   status.
   .
   #1 Shock, likely septic in origin: Patient's blood pressures on a line
   are higher than cuff and we are actively weaning his levophed.
   Currently on 0.03 Given that BPs declined after meds for intubation,
   patient likely volume deplete.  Patient received approximately 5L NS
   between ED and MICU stay. Has central venous access and arterial line
   for close monitoring. Received vanc/zosyn in ED -> switched to
   meropenem in MICU per ID request.  CT w/consolidation RLL and copious
   sputum upon suctioning in ED and in MICU.  Unresolved pna from prior
   admission (acinetobacter= pna source v colonization) vs new pna
   (possibly aspiration due to change in mental status?)
   - transduce a line continuously
   - maintain CVP > or = 10 with NS boluses
   - pressors to maintain MAP > 60 (currently on levophed, weaning down)
   - follow blood, urine, and sputum Cx
   - continue vanc & meropenem as discussed with ID team
   - serial EKGs and enzymes though suspect that elevated troponin and EKG
   changes related to shock/low BP/demand ischemia
   .
   #2 Altered mental status: Likely related to underlying infection/shock;
   of note he has had multiple prior similar episodes with recent
   infections (bacteremia, pneumonia). Was also notably hypernatremic,
   likely due to combination of Lasix and poor PO intake after
   extubatoin.  Head CT shows no acute changes and exam at this point is
   nonfocal.  To keep in mind that patient had new embolic CVA on MRI
   during last admission, although neuro commented at that time that the
   area affected should not significantly affect his mental status.
   - monitor mental status
   - consider repeat MRI if focal neurologic deficits develop
   .
   #3 Respiratory failure: Intubated on arrival; had desat to 80s at rehab
   facility with ABG documenting pO2 in the 40s. Could be secondary to new
   pneumonia/infectious process or worsening of prior pneumonia which
   seems unlikely given broad coverage and protracted course with acute
   decompensation. Likely an aspiration event or inability to handle
   secretions with mucous plugging as mental status waned.  Demonstrated
   insufficient cough effort after extubation during prior admission.
   - wean ventilator as tolerates by ABGs
   - treat for possible pulmonary source as above
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs
   .
   # Acute on chronic renal insufficiency: Recent creatinine levels here
   1.6-2 with current level now 2.4. Continue to monitor. Suspect that
   slight elevation currently due to hypovolemia/shock.
   - PM electrolytes today after fluid resuscitation.
   - monitor creatinine daily
   .
   # Hypernatremia: Likely related to hypovolemia due to poor PO intake at
   rehab.
   - volume repletion, including free water flushes in tube feeds
   - once euvolemic, re-evaluate for ? D5w needs versus NG flushes
   .
   # INR elevation: Likely nutritional given protracted ICU stay. One dose
   of vitamin K given for repletion.
   - DIC labs pending
   - Consider additional doses of Vitamin K
   .
   # UGI bleed: small amount of coffee ground like secretions from NG
   tube. INR elevated, in setting of likely septic shock, concern for DIC.
   - DIC labs as above
   - vitamin K given
   - follow coags
   - PPI to [**Hospital1 **]
   .
   # Type 2 DM:
   - fingersticks four times daily
   - sliding scale insulin
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis:
   - continue vancomycin (Planned course until [**12-21**])
   - follow blood cultures
   .
   # Parkinson's disease: Continue carbidopa/levodopa and ropinirole.
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Starting tube feeds as per nutrition recs from prior admission.
   Repleting electrolytes as needed.
   .
   # PPx: PPI [**Hospital1 **], bowel regimen, heparin SC TID
   .
   # ACCESS: R IJ CVL, right A line, PIV
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: ICU care for now.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-3**] 03:25 AM 65 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-12-1**] 06:00 PM
   Multi Lumen - [**2168-12-1**] 06:30 PM
   Arterial Line - [**2168-12-1**] 06:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-03 11:11:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -OGT placed and TF's restarted
   -PEEP decrease to 10 cm H2O
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2168-12-2**] 12:00 AM
   Vancomycin - [**2168-12-3**] 08:24 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-12-2**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2168-12-3**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2168-12-3**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.9
C (98.5
   HR: 89 (78 - 109) bpm
   BP: 133/61(85) {88/45(58) - 139/70(93)} mmHg
   RR: 23 (18 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (6 - 10)mmHg
   Total In:
                                                                  4,700 mL
                                                                  1,677 mL
   PO:
   TF:
                                                                    306 mL
                                                                    661 mL
   IVF:
                                                                  3,374 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    670 mL
   Urine:
                                                                  1,060 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,640 mL
                                                                  1,007 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 11.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   166 K/uL
   175 mg/dL
   2.3 mg/dL
   31 mEq/L
   3.8 mEq/L
   39 mg/dL
   107 mEq/L
   144 mEq/L
   27.1 %
   11.4 K/uL
        [image002.jpg]
                            [**2168-12-1**]  04:25 PM
                            [**2168-12-1**]  06:44 PM
                            [**2168-12-1**]  10:24 PM
                            [**2168-12-2**]  02:00 AM
                            [**2168-12-2**]  02:06 AM
                            [**2168-12-2**]  07:55 AM
                            [**2168-12-2**]  02:56 PM
                            [**2168-12-3**]  02:38 AM
                            [**2168-12-3**]  08:07 AM
   WBC
   21.8
   11.4
   Hct
   31.1
   26.2
   27.1
   Plt
   255
   166
   Cr
   2.4
   2.4
   2.3
   TropT
   0.09
   0.07
   TCO2
   34
   34
   32
   32
   Glucose
   145
   141
   175
   Other labs: PT / PTT / INR:16.8/42.9/1.5, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:88.7 %, Lymph:7.9 %, Mono:2.9
   %, Eos:0.3 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic Acid:0.8
   mmol/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR--Bilateral Consolidations seen-_ETT and CVL in good
   position
   Microbiology: Cath Tip-Negative
   Urine Culture-Negative
   urine Legionella-Negative
   Assessment and Plan
   66 yo male with Strep Bovis endocarditis and MRSA/Enterococcal
   bactermia with recurrent admission with Acinetobacter PNA now with
   readmission from Rehab wtih sepsis and worsening respiratory failure
   concerning for aspiation pneumonitis/pneumonia.  He returns with acute
   respiratory failure and findings consistent with sepsis and concern for
   pulmonary source.
   1)Respiratory Failure-Patient with likely aspiration event upon
   transfer to rehab leading to return to ICU for further care in the
   setting or pre-existing pneumonia with bilateral patchy infiltrates
   noted.
   -Continue with Vanco/[**Last Name (un) 350**] and consider change to Dobirax if ID supports
   that
   -[**Month (only) 8**] be a component of [**Doctor Last Name 76**] in the setting of previous pneumonia and
   will continue with low Vt approach
   -Differential does include alveolar hemorrhage and embolic phenomena
   but this appears less likely
   -Atrovent
   -Move to PSV as possible
   -Follow up cultures given the bilateral patchy infiltrates noted
   -Had completed Tobra/[**Last Name (un) 350**] pior to discharge
   -Move to PSV today
   2)Sepsis-
   -Vanco/Meropenem in place
   -Will need to consider broadening if further fevers/hypotension or
   increased secretions seen
   -IVF needed and pressors D/C
d yesterday which may represent sepsis
   with improvement with fluids
   3)Endocarditis/Bacteremia-
   -Vancomycin to continue with goal 6 week course
   4)Parkinson's Disease
   -Sinemet/Requip
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-3**] 06:05 AM 65 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-12-1**] 06:00 PM
   Multi Lumen - [**2168-12-1**] 06:30 PM
   Arterial Line - [**2168-12-1**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2168-12-04 05:59:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
    FEVER - 101.6
   Weaned FiO2 to 30%
   Urine spun w/ muddy brown casts
   Moderate growth of GNR (Klebsiella) from sputum [**12-1**]
   Vancomycin trough is 24.2
 8am Vanco dose held
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Antibiotics:
   Vancomycin
   Meropenem
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2168-12-3**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2168-12-3**] 11:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cannot assess
   Flowsheet Data as of  [**2168-12-4**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.2
C (99
   HR: 86 (67 - 98) bpm
   BP: 130/61(84) {107/49(66) - 148/74(96)} mmHg
   RR: 21 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,030 mL
                                                                    753 mL
   PO:
             TF:
                                                                  1,536 mL
                                                                    389 mL
   IVF:
                                                                    904 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    400 mL
   Urine:
                                                                  1,710 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,320 mL
                                                                    353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 30%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.47/42/121/31/7 (3am)
   Ve: 9.2 L/min
   PaO2 / FiO2: 403
   Physical Examination
   Gen: sedated and intubated, responds to voice by following commands
   moves fingers and toes on command.
   HEENT: PEERL. No scleral icterus. MMM, OP clear, ET tube in place
   NECK: supple, no LAD, R IJ in place
   CV: RRR, 2/6 systolic murmur at the LUSB
   LUNGS: mild crackles bilaterally, no wheezes or rhonchi
   ABD: obese, normoactive bowel sounds, soft with reducible small
   umbilical hernia, apparently nontender throughout
   EXT: DP and radial pulses 2+ bilaterally, no peripheral edema
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Intubated and sedated. eye opening to voice. Oculocephalic
   reflex intact. Intermittent rhythmic tremor or left>right hand
   Labs / Radiology
   8.4 g/dL
   136 K/uL
   149 mg/dL
   2.2 mg/dL
   31 mEq/L
   3.4 mEq/L
   36 mg/dL
   107 mEq/L
   144 mEq/L
   26.2 %
   6.8 K/uL
        [image002.jpg]
                            [**2168-12-2**]  02:00 AM
                            [**2168-12-2**]  02:06 AM
                            [**2168-12-2**]  07:55 AM
                            [**2168-12-2**]  02:56 PM
                            [**2168-12-3**]  02:38 AM
                            [**2168-12-3**]  08:07 AM
                            [**2168-12-3**]  12:17 PM
                            [**2168-12-3**]  09:40 PM
                            [**2168-12-4**]  03:26 AM
                            [**2168-12-4**]  03:30 AM
   WBC
   21.8
   11.4
   6.8
   Hct
   31.1
   26.2
   27.1
   26.2
   Plt
   255
   166
   136
   Cr
   2.4
   2.4
   2.3
   2.2
   TropT
   0.09
   0.07
   TCO2
   32
   30
   32
   31
   Glucose
   145
   141
   175
   149
   Other labs:
   PT / PTT / INR:15.8/44.2/1.4
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Sputum Gram stain w/GNR
   Sputum Cx: mod growth Klebsiella
   BCx [**12-1**], [**12-3**] pending
   PICC line tip Cx: pending
   Urine Legionella Ag: negative
   Assessment and Plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia now with respiratory failure and
   fever.
   .
   #1 Respiratory failure: Likely second to aspiration pneumonia given
   clinical presentation and sputum Cx w/Klebsiella.  Intubated on vent.
   Satting well now w/ PO2 147. PO2/FiO2 >300 so likely not ARDS.  FiO2
   weaned to 30% w/[**Last Name **] problem.
   - Vanco/Meropenem empirically for now
 Meropenem w/Klebsiella coverage
   - F/U sputum culture sensitivities -> can narrow Abx spectrum coverage
   when sensitivities available.
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs
   .
   #2 Altered mental status: Sedated on vent now but responding
   appropriately to commands. Patient was not at baseline mental status
   during any portion of his ICU stay before, although his MS improved as
   he improved clinically.
   - Follow mental status as his pna is treated and he is weaned from the
   ventilator
   .
   # Acute on chronic renal insufficiency: Muddy brown casts on spun urine
   likely ATN.
   -          monitor creatinine daily
   -          Treat sepsis
   -          Support BP w/ fluid boluses as needed.
   .
   #Shock: Resolved, multifactorial sepsis and dehydration from poor PO
   intake.  Not on pressors any more.  Patient still febrile.  Cr still
   elevated likely ATN given muddy brown casts.
   - follow fever curve w/oral or rectal temps (not axillary)
   - IVF as needed
   - ABx as above
   - Monitor BP w/ A line.
   .
   # INR elevation: Improved
 1.4 today.  Likely nutritional given
   protracted ICU stay. One dose of vitamin K given for repletion.  FDP,
   fibrinogen normal. No bleeding noted.
   - follow coags
   .
   # thrombocytopenia: platelets slowly declining 255 -> 136 over
   48hours.  Hemodillution v HIT-ab associated.
   - d/c heparin sc
   - IJ -> picc (w/no heparin)
   - d/c heparin flushes
   - check HIT antibody
   .
   # UGI bleed: Resolved.  Small amount of coffee ground like secretions
   from NG tube. INR elevated, in setting of likely septic shock, concern
   for DIC.
   - PPI to PO and QD from [**Hospital1 **].
   .
   # Type 2 DM:
   - fingersticks four times daily
   - sliding scale insulin
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis:
   - continue vancomycin (Planned course until [**12-21**])
   - follow blood cultures
   .
   # Parkinson's disease: Tremor may be slightly worse but patient on max
   dose sinemet. Continue carbidopa/levodopa and ropinirole for now.
   Re-address when patient otherwise more clinically well.
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Starting tube feeds as per nutrition recs from prior admission.
   Repleting electrolytes as needed.
   .
   # PPx: PPI, bowel regimen, heparin SC TID
   .
   # ACCESS: R IJ CVL, right A line, PIV
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: ICU care for now.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-4**] 04:49 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-12-1**] 06:30 PM
   Arterial Line - [**2168-12-1**] 06:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2168-12-04 11:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.6
F - [**2168-12-3**] 02:00 PM
   -Levophed off
   -Fevers continue
   -Muddy Brown Casts seen on U/A microscopy
   -WBC continues to trend down
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-3**] 08:24 AM
   Meropenem - [**2168-12-3**] 11:47 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2168-12-3**] 08:00 PM
   Pantoprazole (Protonix) - [**2168-12-4**] 06:20 AM
   Heparin Sodium (Prophylaxis) - [**2168-12-4**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2168-12-4**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.6
C (101.5
   HR: 82 (67 - 98) bpm
   BP: 129/56(79) {107/49(66) - 148/74(96)} mmHg
   RR: 11 (11 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,030 mL
                                                                  1,486 mL
   PO:
             TF:
                                                                  1,536 mL
                                                                    702 mL
   IVF:
                                                                    904 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                  1,080 mL
   Urine:
                                                                  1,710 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,320 mL
                                                                    406 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 30%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/42/121/31/7
   Ve: 13.2 L/min
   PaO2 / FiO2: 403
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   136 K/uL
   149 mg/dL
   2.2 mg/dL
   31 mEq/L
   3.4 mEq/L
   36 mg/dL
   107 mEq/L
   144 mEq/L
   26.2 %
   6.8 K/uL
        [image002.jpg]
                            [**2168-12-2**]  02:00 AM
                            [**2168-12-2**]  02:06 AM
                            [**2168-12-2**]  07:55 AM
                            [**2168-12-2**]  02:56 PM
                            [**2168-12-3**]  02:38 AM
                            [**2168-12-3**]  08:07 AM
                            [**2168-12-3**]  12:17 PM
                            [**2168-12-3**]  09:40 PM
                            [**2168-12-4**]  03:26 AM
                            [**2168-12-4**]  03:30 AM
   WBC
   21.8
   11.4
   6.8
   Hct
   31.1
   26.2
   27.1
   26.2
   Plt
   255
   166
   136
   Cr
   2.4
   2.4
   2.3
   2.2
   TropT
   0.09
   0.07
   TCO2
   32
   30
   32
   31
   Glucose
   145
   141
   175
   149
   Other labs: PT / PTT / INR:15.8/44.2/1.4, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:88.7 %, Lymph:7.9 %, Mono:2.9
   %, Eos:0.3 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic Acid:0.7
   mmol/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: ABG-7.47
   Microbiology: Sputum-
   -Moderate growth of GNR's--Klebsiella Pneumonia
   Urine--Legionella negative
   PICC Line--no change
   Assessment and Plan
   66 yo male with recurrent endocarditis and now re-admitted to ICU with
   fever, sepsis and likely aspiraiton pneumonitis/pneumonia following
   discharge to rehab setting.  This would be suggested to be supported by
   findings on sputum with Klebsiella found on initial culture results
   1)Respiratory Failure-In the setting of prominent secretations and need
   to clear what is likley Klebsiella PNA will move to extubation slowly
   and driven primarily but limitations in regards to mental status and
   secretion volume.  He has been able to wean FIO2 and venilation has
   been with reasonable background requirement.  It is important to note
   that patient does have report of difficult airway for intubation noted
   in past.  Patient with peak pressure=28, Pplat=21, PEEP=10 yielding
   favorable pulmonary mechanics.
   -Will continue with pulmonary toilet in the setting of significant
   secretion volume
   -Will move to negative fluid balance if needed in the setting of fever
   resolution
   -Move to PSV today
   -If unable to maintain stable airway post extubation will have to
   consider tracheostomy but given likely rapid improvement if aspiration
   pneumonitis is only source will be able to hopefully maintain
   independent airway.
   2)Sepsis-Patient off pressors and with concerning findings suggesting
   ATN on urine evaluation.  [**Month (only) 8**] well be pulmonary source with GNR
s noted
   on culture results.
   -Continue with Vanco/Meropenem
   -Follow up final culture sensitivities
   -
   3)Endocarditis-
   -Continue with Vanco
   4)Parkinson's Disease-
   requip and Sinemet continuing
   Additional issues to be addressed and managed as defined in the
   housestaff note of this date.
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-4**] 04:49 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-12-1**] 06:30 PM
   Arterial Line - [**2168-12-1**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   ------ Protected Section ------
   Thrombocytopenia
Patient with continued decline in PLT count to 50% of
   baseline in the setting of prior heparin dosing and although no
   evidence of thrombosis will move to cautiously evaluate with D/C of all
   heparin products and sending of HIT Ab
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2168-12-4**] 11:10 ------

2168-12-05 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.9
F - [**2168-12-4**] 09:00 AM
   -Sputum cult showed Klebsiella PNA, carbapnem sensi pending
   -plts downtrending, sent PF4 antibody, d/ced all heparin. could also be
   [**2-6**] meropenem
   -PS and FIO2 decreased
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-4**] 05:39 PM
   Meropenem - [**2168-12-5**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-12-4**] 08:21 AM
   Fentanyl - [**2168-12-5**] 04:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is [**Year (4 digits) 752**] from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-5**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38
C (100.4
   HR: 80 (70 - 93) bpm
   BP: 121/55(77) {114/54(72) - 165/150(157)} mmHg
   RR: 13 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,822 mL
                                                                    975 mL
   PO:
             TF:
                                                                  1,576 mL
                                                                    421 mL
   IVF:
                                                                    825 mL
                                                                    415 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                    790 mL
   Urine:
                                                                  2,580 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,242 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 517 (158 - 524) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 104
   PIP: 24 cmH2O
   Plateau: 25 cmH2O
   SpO2: 97%
   ABG: 7.43/50/121/32/7
   Ve: 8.7 L/min
   PaO2 / FiO2: 403
   Physical Examination
   Gen: sedated and intubated, responds to voice by following commands
   moves fingers and toes on command.
   HEENT: PEERL. No scleral icterus. MMM, OP clear, ET tube in place
   NECK: supple, no LAD, R IJ in place
   CV: RRR, 2/6 systolic murmur at the LUSB
   LUNGS: mild crackles bilaterally, no wheezes or rhonchi
   ABD: obese, normoactive bowel sounds, soft with reducible small
   umbilical hernia, apparently nontender throughout
   EXT: DP and radial pulses 2+ bilaterally, no peripheral edema
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Intubated and sedated. eye opening to voice. Oculocephalic
   reflex intact. Intermittent rhythmic tremor or left>right hand
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   150 K/uL
   8.5 g/dL
   161 mg/dL
   2.0 mg/dL
   32 mEq/L
   4.4 mEq/L
   36 mg/dL
   106 mEq/L
   144 mEq/L
   25.8 %
   5.3 K/uL
        [image002.jpg]
                            [**2168-12-3**]  08:07 AM
                            [**2168-12-3**]  12:17 PM
                            [**2168-12-3**]  09:40 PM
                            [**2168-12-4**]  03:26 AM
                            [**2168-12-4**]  03:30 AM
                            [**2168-12-4**]  03:56 PM
                            [**2168-12-4**]  04:20 PM
                            [**2168-12-4**]  06:15 PM
                             [**2168-12-5**]  04:30 AM
                             [**2168-12-5**]  06:11 AM
   WBC
   6.8
   5.3
   Hct
   27.1
   26.2
   25.8
   Plt
   136
   150
   Cr
   2.2
   2.1
   2.0
   TCO2
   30
   32
   31
   34
   34
   34
   Glucose
   149
   157
   161
   Other labs: PT / PTT / INR:15.1/42.3/1.3, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:88.7 %, Lymph:7.9 %, Mono:2.9
   %, Eos:0.3 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic Acid:0.8
   mmol/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia now with respiratory failure and
   fever.
   .
   #1 Respiratory failure: Likely second to aspiration pneumonia given
   clinical presentation and sputum Cx w/Klebsiella.  Intubated on vent.
   Satting well now w/ PO2 147. PO2/FiO2 >300 so likely not ARDS.  FiO2
   weaned to 30% w/[**Last Name **] problem.
   - Vanco/Meropenem empirically for now
 Meropenem w/Klebsiella coverage
   - F/U sputum culture sensitivities -> can narrow Abx spectrum coverage
   when sensitivities available.
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs
   .
   #2 Altered mental status: Sedated on vent now but responding
   appropriately to commands. Patient was not at baseline mental status
   during any portion of his ICU stay before, although his MS improved as
   he improved clinically.
   - Follow mental status as his pna is treated and he is weaned from the
   ventilator
   .
   # Acute on chronic renal insufficiency: Muddy brown casts on spun urine
   likely ATN.
   -          monitor creatinine daily
   -          Treat sepsis
   -          Support BP w/ fluid boluses as needed.
   .
   #Shock: Resolved, multifactorial sepsis and dehydration from poor PO
   intake.  Not on pressors any more.  Patient still febrile.  Cr still
   elevated likely ATN given muddy brown casts.
   - follow fever curve w/oral or rectal temps (not axillary)
   - IVF as needed
   - ABx as above
   - Monitor BP w/ A line.
   .
   # INR elevation: Improved
 1.4 today.  Likely nutritional given
   protracted ICU stay. One dose of vitamin K given for repletion.  FDP,
   fibrinogen normal. No bleeding noted.
   - follow coags
   .
   # thrombocytopenia: platelets slowly declining 255 -> 136 over
   48hours.  Hemodillution v HIT-ab associated.
   - d/c heparin sc
   - IJ -> picc (w/no heparin)
   - d/c heparin flushes
   - check HIT antibody
   .
   # UGI bleed: Resolved.  Small amount of coffee ground like secretions
   from NG tube. INR elevated, in setting of likely septic shock, concern
   for DIC.
   - PPI to PO and QD from [**Hospital1 **].
   .
   # Type 2 DM:
   - fingersticks four times daily
   - sliding scale insulin
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis:
   - continue vancomycin (Planned course until [**12-21**])
   - follow blood cultures
   .
   # Parkinson's disease: Tremor may be slightly worse but patient on max
   dose sinemet. Continue carbidopa/levodopa and ropinirole for now.
   Re-address when patient otherwise more clinically well.
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Starting tube feeds as per nutrition recs from prior admission.
   Repleting electrolytes as needed.
   .
   # PPx: PPI, bowel regimen, heparin SC TID
   .
   # ACCESS: R IJ CVL, right A line, PIV
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: ICU care for now.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-5**] 03:43 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-12-1**] 06:30 PM
   Arterial Line - [**2168-12-1**] 06:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-05 12:20:00 Physician Attending Progress Note
Chief Complaint: respiratory failure and sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo man with strep bovis endocarditis, enterococcal bacteremia,
   acinetobacter PNA, readmitted from rehab with aspiration PNA and
   sepsis.  Has been febrile, sputum with ESBL Klebs sensitive to
   meropenem.
   24 Hour Events:
 FEVER - 101.9
F - [**2168-12-4**] 09:00 AM
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-4**] 05:39 PM
   Meropenem - [**2168-12-5**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2168-12-5**] 11:00 AM
   Midazolam (Versed) - [**2168-12-5**] 11:02 AM
   Other medications:
   SSI
   levoxyl
   lipitor
   asa
   sinemet
   ropinoril
   MVI
   Calcitriol
   prevacide
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-5**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.2
C (100.7
   HR: 94 (70 - 94) bpm
   BP: 148/62(92) {114/54(72) - 165/150(157)} mmHg
   RR: 34 (13 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,822 mL
                                                                  1,647 mL
   PO:
             TF:
                                                                  1,576 mL
                                                                    778 mL
   IVF:
                                                                    825 mL
                                                                    529 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                  1,430 mL
   Urine:
                                                                  2,580 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,242 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 517 (158 - 524) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 104
   PIP: 24 cmH2O
   SpO2: 99%
   ABG: 7.43/50/121/32/7
   Ve: 8.6 L/min
   PaO2 / FiO2: 403
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: On right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   150 K/uL
   161 mg/dL
   2.0 mg/dL
   32 mEq/L
   4.4 mEq/L
   36 mg/dL
   106 mEq/L
   144 mEq/L
   25.8 %
   5.3 K/uL
        [image002.jpg]
                            [**2168-12-3**]  08:07 AM
                            [**2168-12-3**]  12:17 PM
                            [**2168-12-3**]  09:40 PM
                            [**2168-12-4**]  03:26 AM
                            [**2168-12-4**]  03:30 AM
                            [**2168-12-4**]  03:56 PM
                            [**2168-12-4**]  04:20 PM
                            [**2168-12-4**]  06:15 PM
                             [**2168-12-5**]  04:30 AM
                             [**2168-12-5**]  06:11 AM
   WBC
   6.8
   5.3
   Hct
   27.1
   26.2
   25.8
   Plt
   136
   150
   Cr
   2.2
   2.1
   2.0
   TCO2
   30
   32
   31
   34
   34
   34
   Glucose
   149
   157
   161
   Other labs: PT / PTT / INR:15.1/42.3/1.3, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:88.7 %, Lymph:7.9 %, Mono:2.9
   %, Eos:0.3 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic Acid:0.8
   mmol/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Continue to decrease
   PSV as tolerated
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)  Continued fevers
   although he is growing highly resistent organism.  Continue to follow
   fever curve.
   Endocarditis:  continue vanco.
   Tremulousness:  Having very severe tremors.  Increase sinemet to prior
   dose.
   Platelets have dropped by >50%, so will check HIT.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-5**] 10:56 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-12-1**] 06:30 PM
   Arterial Line - [**2168-12-1**] 06:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2168-12-06 05:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * Hit Ab positive
     * Vanco changed to 750mg QD dosed at 8pm - to re-check level in 3
       days
     * Sinemet increased to 2 tabs 5x per day
     * UA w/pyuria and yeast -> changed foley
     * received fentanyl boluses during the day for agitation and apparent
       pain
     * hypertensive to 180's -> metoprolol re-started
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-5**] 07:58 PM
   Meropenem - [**2168-12-5**] 11:58 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2168-12-5**] 04:24 PM
   Midazolam (Versed) - [**2168-12-5**] 04:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-6**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.9
   HR: 94 (78 - 98) bpm
   BP: 125/61(84) {103/48(66) - 150/79(104)} mmHg
   RR: 23 (13 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,575 mL
                                                                    501 mL
   PO:
             TF:
                                                                  1,564 mL
                                                                    356 mL
   IVF:
                                                                  1,131 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                    660 mL
   Urine:
                                                                  3,280 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    295 mL
                                                                   -159 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 472 (335 - 552) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 157
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.49/43/85.[**Numeric Identifier 299**]/33/8
   Ve: 11.9 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Gen: sedated and intubated, responds to voice by following commands
   moves fingers and toes on command.
   HEENT: PEERL. No scleral icterus. MMM, OP clear, ET tube in place
   NECK: supple, no LAD, R IJ in place
   CV: RRR, 2/6 systolic murmur at the LUSB
   LUNGS: CTA on left, crackles and rhonchi on right base to apex
   ABD: obese, normoactive bowel sounds, soft with reducible small
   umbilical hernia, apparently nontender throughout
   EXT: DP and radial pulses 2+ bilaterally, no peripheral edema
   SKIN: No rashes/lesions, ecchymoses
   NEURO: Intubated and sedated. eye opening to voice.  Intermittent
   rhythmic tremor or left>right hand
   Labs / Radiology
   174 K/uL
   9.0 g/dL
   173 mg/dL
   1.9 mg/dL
   33 mEq/L
   4.3 mEq/L
   34 mg/dL
   103 mEq/L
   142 mEq/L
   27.5 %
   6.4 K/uL
        [image002.jpg]
                            [**2168-12-4**]  03:56 PM
                            [**2168-12-4**]  04:20 PM
                            [**2168-12-4**]  06:15 PM
                             [**2168-12-5**]  04:30 AM
                             [**2168-12-5**]  06:11 AM
                             [**2168-12-5**]  02:24 PM
                             [**2168-12-5**]  03:37 PM
                             [**2168-12-5**]  04:31 PM
                             [**2168-12-6**]  03:48 AM
                             [**2168-12-6**]  03:55 AM
   WBC
   5.3
   6.4
   Hct
   25.8
   27.2
   27.5
   Plt
   150
   174
   Cr
   2.1
   2.0
   1.9
   TCO2
   34
   34
   34
   35
   35
   34
   Glucose
   157
   161
   173
   Other labs: PT / PTT / INR:15.6/48.1/1.4, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:72.0 %, Lymph:18.2 %, Mono:5.0
   %, Eos:4.3 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic Acid:0.8
   mmol/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia now with respiratory failure and
   fever.
   .
   #1 Respiratory failure: Likely second to aspiration pneumonia given
   clinical presentation and sputum Cx w/Klebsiella.  Intubated on vent.
   On PSV w/good ABG. Tolerating vent weaning well.  Klebsiella sensitive
   to meropenem.
   - continue vanc/meropenem
 vanco to 750mg QD starting at 8pm tonight.
   - re-check vanco trough after 3 doses (7pm on [**12-8**])
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs prn
   .
   #2 Altered mental status: Sedated on vent now but responding
   appropriately to commands. Patient was not at baseline mental status
   during any portion of his ICU stay before, although his MS improved as
   he improved clinically.
   - Follow mental status as his pna is treated and he is weaned from the
   ventilator
   .
   # Acute on chronic renal insufficiency: Muddy brown casts on spun urine
   likely ATN. Cr improving. Vanco dosing changed based on renal failure,
   high troughs.
   -          monitor creatinine daily
   -          Treat sepsis
   -          Support BP w/ fluid boluses as needed.
   .
   #Shock: Resolved, multifactorial sepsis and dehydration from poor PO
   intake.  Not on pressors any more.  Patient still febrile.  Cr still
   elevated likely ATN given muddy brown casts.
   - follow fever curve w/oral or rectal temps (not axillary)
   - IVF as needed
   - ABx as above
   - Monitor BP w/ A line.
   .
   # thrombocytopenia: platelets slowly declined 255 -> 136 over 48hours,
   now stable.  Hemodillution v HIT-ab associated.
   Heparin sc d/c. Saline flushes only.
   - HIT antibody pending
   .
   # INR elevation: Improved
 1.3 today.  Likely nutritional given
   protracted ICU stay. One dose of vitamin K given initially for
   repletion in setting of ?UGI bleed.  FDP, fibrinogen normal. No
   bleeding noted.
   - follow coags
   .
   # UGI bleed: Resolved.  Small amount of coffee ground like secretions
   from NG tube. INR elevated, in setting of likely septic shock, concern
   for DIC.
   - PPI to PO and QD from [**Hospital1 **].
   .
   # Type 2 DM:
   - fingersticks four times daily
   - sliding scale insulin
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis:
   - continue vancomycin (Planned course until [**12-21**])
   - follow blood cultures
   .
   # Parkinson's disease: Tremor worse since this admission.  Continue
   carbidopa/levodopa and ropinirole for now.  Checked dose in MICU v dose
   at home and was started on lower dose in MICU (oversight)
 to increase
   dose Carbodopa/levodopa to home dose today.
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Starting tube feeds as per nutrition recs from prior admission.
   Repleting electrolytes as needed.
   .
   # PPx: PPI, bowel regimen, heparin SC TID
   .
   # ACCESS: R IJ CVL, right A line, PIV
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: ICU care for now.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-6**] 01:19 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-12-1**] 06:30 PM
   Arterial Line - [**2168-12-1**] 06:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-06 12:08:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64  with parkinson's disease, reccurrent hospitalizations since [**Month (only) 338**]
   for bacteremia and PNAs.
   24 Hour Events:
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-5**] 07:58 PM
   Meropenem - [**2168-12-5**] 11:58 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2168-12-5**] 04:24 PM
   Midazolam (Versed) - [**2168-12-5**] 04:25 PM
   Other medications:
   sinemet
   pepcid
   vitamin
   calcitriol
   insulin
   lipitor
   ropinurole
   atrovent
   levoxyl
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-6**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38
C (100.4
   HR: 94 (80 - 98) bpm
   BP: 143/66(93) {103/48(66) - 150/84(106)} mmHg
   RR: 24 (13 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,575 mL
                                                                  1,150 mL
   PO:
             TF:
                                                                  1,564 mL
                                                                    586 mL
   IVF:
                                                                  1,131 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                  1,660 mL
   Urine:
                                                                  3,280 mL
                                                                  1,660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    295 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 540 (335 - 552) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 157
   PIP: 21 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.49/43/85.[**Numeric Identifier 299**]/33/8
   Ve: 10.9 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: R>L)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, might have grasped fingers
   Labs / Radiology
   9.0 g/dL
   174 K/uL
   173 mg/dL
   1.9 mg/dL
   33 mEq/L
   4.3 mEq/L
   34 mg/dL
   103 mEq/L
   142 mEq/L
   27.5 %
   6.4 K/uL
        [image002.jpg]
                            [**2168-12-4**]  03:56 PM
                            [**2168-12-4**]  04:20 PM
                            [**2168-12-4**]  06:15 PM
                             [**2168-12-5**]  04:30 AM
                             [**2168-12-5**]  06:11 AM
                             [**2168-12-5**]  02:24 PM
                             [**2168-12-5**]  03:37 PM
                             [**2168-12-5**]  04:31 PM
                             [**2168-12-6**]  03:48 AM
                             [**2168-12-6**]  03:55 AM
   WBC
   5.3
   6.4
   Hct
   25.8
   27.2
   27.5
   Plt
   150
   174
   Cr
   2.1
   2.0
   1.9
   TCO2
   34
   34
   34
   35
   35
   34
   Glucose
   157
   161
   173
   Other labs: PT / PTT / INR:15.6/48.1/1.4, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:72.0 %, Lymph:18.2 %, Mono:5.0
   %, Eos:4.3 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic Acid:0.8
   mmol/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 PARKINSON'S DISEASE
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Opens eyes to voice, and may
   be following some commands.
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Recurrent HAP due to
   poor mucous clearance, recurrent aspiration.  On meropenem for VAP.
   Doing well on PSV.
   Fluid overload:  Autodiuresiing currently.  Plan for net negative.
   Acute renal failure:  Creatinine improving.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA):  Fever curve
   trending down as has WBC.
   thrombocytopenia:  HIT+, will check serotonin release assay to confirm
   as he has presumably gotten heparin before.
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: start NPH for better glucose control
   Lines:
   Multi Lumen - [**2168-12-1**] 06:30 PM
   Arterial Line - [**2168-12-1**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2168-12-07 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -serotonin assay sent
   -no new ID recs, continue course
   -added NPH 3u am/pm for elevated sugars
   -ABG metabolic alkalosis
   -agitated o/n put back on sedation
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-6**] 08:20 PM
   Meropenem - [**2168-12-7**] 12:01 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-12-6**] 08:20 PM
   Other medications:
   ISS
   Metoprolol
   Carbidopa-Levodopa
   Lansoprazole
   Colace
   Albuterol
   Tylenol
   Mvi
   Calcitriol
   Atorvastatin
   Ropinirole
   Ipratropium
   Miconazole
   Levothyroxine
   ASA
   Senna
   bisacodyl
   Chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-7**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.5
C (99.5
   HR: 86 (83 - 98) bpm
   BP: 136/65(91) {113/54(75) - 155/139(145)} mmHg
   RR: 21 (17 - 32) insp/min
   SpO2: 96% (93-100) secretions decreasing
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,075 mL
                                                                    779 mL
   PO:
             TF:
                                                                  1,588 mL
                                                                    425 mL
   IVF:
                                                                    847 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  4,480 mL
                                                                  1,190 mL
   Urine:
                                                                  4,470 mL
                                                                  1,190 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,405 mL
                                                                   -411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 453 (382 - 540) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   Was on CPAP/PSV 12/2 from 9am to 8pm, on 30% FiO2.
   RSBI: 129
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.49/43/91/34/8
   Ve: 10.7 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Gen: sedated and intubated, responds to light tactile stimulus. ET tube
   with significant currant jelly exhudate.
   HEENT: PEERL. No scleral icterus. MMM, OP clear, ET tube in place
   NECK: supple, no LAD, R IJ in place dressing c/d/i
   CV: RRR, 2/6 systolic murmur at the LUSB
   LUNGS: rhonchorous anteriorly likely [**2-6**] sputum buildup in tube,
   crackles right base
   ABD: normoactive bowel sounds, soft with reducible small umbilical
   hernia, nontender
   EXT: DP and radial pulses 2+ bilaterally, no peripheral edema, R art
   line
   SKIN: No new rashes/lesions, stable healing ecchymoses
   NEURO: Intubated and sedated. Intermittent rhythmic tremor somewhat
   improved from yesterday L>R
   Tele: PVCs
   Labs / Radiology
   189 K/uL
   9.4 g/dL
   173 mg/dL
   1.8 mg/dL
   34 mEq/L
   4.1 mEq/L
   37 mg/dL
   101 mEq/L
   142 mEq/L
   28.5 %
   8.5 K/uL
        [image002.jpg]
   Cr 2.0 to 1.9 to 1.8
   [**12-7**] CXR PNA stable to mildly improved
   Micro
   [**12-1**] sputum Klebsiella, meronpenem sensitive
   [**12-3**], [**12-4**], blood pending
   [**12-4**] Urine 10
 100K yeast.
                             [**2168-12-5**]  04:30 AM
                             [**2168-12-5**]  06:11 AM
                             [**2168-12-5**]  02:24 PM
                             [**2168-12-5**]  03:37 PM
                             [**2168-12-5**]  04:31 PM
                             [**2168-12-6**]  03:48 AM
                             [**2168-12-6**]  03:55 AM
                             [**2168-12-6**]  01:43 PM
                             [**2168-12-6**]  10:18 PM
                             [**2168-12-7**]  02:31 AM
   WBC
   5.3
   6.4
   8.5
   Hct
   25.8
   27.2
   27.5
   28.5
   Plt
   150
   174
   189
   Cr
   2.0
   1.9
   1.8
   1.8
   TCO2
   34
   35
   35
   34
   36
   34
   Glucose
   161
   173
   206
   173
   Other labs: PT / PTT / INR:16.1/48.8/1.4, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:72.0 %, Lymph:18.2 %, Mono:5.0
   %, Eos:4.3 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic Acid:0.8
   mmol/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia now with respiratory failure and
   fever.
   .
   #1 Respiratory failure: Sputum culture growing Klebsiella, sensitive to
   meropenem.  Tolerating CPAP/PS well on 5 PEEP for long periods.  Will
   continue to treat PNA, and aggressive chest PT given thick secretions.
   - continue meropenem  for 14 day course through [**12-14**], vanco 750mg IV
   q24 through [**12-16**]
   - re-check vanco trough tonight prior to 4^th 750mg dose
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs prn
   -Given multiple failed extubations in past likely will need tach for
   extended weaning and suction ability. Mentioned to family [**12-6**] will
   discuss further today. If family agrees call IP.
   -Appears volume overloaded, give 40mg IV lasix today. With goal of 1L
   negative
   -check pm lytes
   .
   #2 Altered mental status: Sedated on vent with sedation. Mental status
   has improved slightly but it is difficult to assess while on sedation.
   Will vent weaning, will continue to go down on sedation as tolerated.
   - Follow mental status as his pna is treated and he is weaned from the
   ventilator
   .
   # Acute on chronic renal insufficiency: Muddy brown casts on spun urine
   likely ATN. Cr improving. Vanco dosing changed based on renal failure,
   high troughs.
   - monitor creatinine, UOP
   - Renally dose medications
   - diuresis as above.
   .
   # Cards: Decreased ectopy after started metoprolol
   - Increased metoprolol to 25 TID
   .
   #Shock: Still has some low grade temperatures but is otherwise
   hemodynamically stable.  Actively treating Klebsiella PNA. Yeast on
   urine culture [**12-4**], foley was replaced.
   - follow fever curve, steadly decreasing
   - IVF as needed
   - ABx as above
   - RIJ, Aline in place
   - Awaiting PICC placement but will not give until afebrile
   .
   #Metabolic alkalosis: Likely [**2-6**] diuresis and insensible losses,
   continue to monitor.
   .
   # Thrombocytopenia: HIT antibody positive, off all heparin products,
   lines flushed yesterday.  Today platelets slowly recovering. -Pending
   serotonin release assay for confirmation.
   .
   # INR elevation: INR 1.4 stable.  Likely nutritional in nature. Not
   actively bleeding, will hold off on vitamin K and follow coags.
   - follow coags
   .
   # UGI bleed: Resolved.  No bloody output from NG today. Monitoring
   coags. On PPI.
   - PPI qd
   .
   # Type 2 DM: FS still elevated dispite NPH and ISS
   - changed to 15 glargine and ISS increased
   - fingersticks four times daily
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis: continue
   on vancomycin and following blood cultures.
   - continue vancomycin (Planned course until [**12-16**])
   - follow blood cultures
   - trough goal 15-20 per ID
   .
   # Parkinson's disease: Continue carbidopa/levodopa and ropinirole for
   now.  Dose adjusted yesterday, will continue to monitor for tremor
   improvement.
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Starting tube feeds as per nutrition recs from prior admission.
   Repleting electrolytes as needed. Multivitamin
   .
   # PPx: PPI, bowel regimen, pneumoboots
   .
   # ACCESS: R IJ CVL, right A line, PIV
   - PICC when afebrile
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: ICU care for now.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-6**] 11:58 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-12-1**] 06:30 PM
   Arterial Line - [**2168-12-1**] 06:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-07 12:25:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo man with parkinson's disease.  Recurrent aspiration PNA.  Got
   diuresed yesterday.
   24 Hour Events:
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-6**] 08:20 PM
   Meropenem - [**2168-12-7**] 12:01 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2168-12-6**] 08:20 PM
   Other medications:
   sinemet
   MVI
   calcitriol
   SSI
   lipitor
   requip
   atrovent
   thyroxine
   asa
   lopressor
   free H20
   NPH
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-7**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 89 (83 - 98) bpm
   BP: 143/70(97) {113/54(75) - 155/139(145)} mmHg
   RR: 33 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,075 mL
                                                                  1,793 mL
   PO:
             TF:
                                                                  1,588 mL
                                                                    786 mL
   IVF:
                                                                    847 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  4,480 mL
                                                                  1,635 mL
   Urine:
                                                                  4,470 mL
                                                                  1,635 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,405 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 417 (404 - 453) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 129
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.49/43/91/34/8
   Ve: 10.6 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed, still tremulous
   Labs / Radiology
   9.4 g/dL
   189 K/uL
   173 mg/dL
   1.8 mg/dL
   34 mEq/L
   4.1 mEq/L
   37 mg/dL
   101 mEq/L
   142 mEq/L
   28.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2168-12-5**]  04:30 AM
                             [**2168-12-5**]  06:11 AM
                             [**2168-12-5**]  02:24 PM
                             [**2168-12-5**]  03:37 PM
                             [**2168-12-5**]  04:31 PM
                             [**2168-12-6**]  03:48 AM
                             [**2168-12-6**]  03:55 AM
                             [**2168-12-6**]  01:43 PM
                             [**2168-12-6**]  10:18 PM
                             [**2168-12-7**]  02:31 AM
   WBC
   5.3
   6.4
   8.5
   Hct
   25.8
   27.2
   27.5
   28.5
   Plt
   150
   174
   189
   Cr
   2.0
   1.9
   1.8
   1.8
   TCO2
   34
   35
   35
   34
   36
   34
   Glucose
   161
   173
   206
   173
   Other labs: PT / PTT / INR:16.1/48.8/1.4, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:72.0 %, Lymph:18.2 %, Mono:5.0
   %, Eos:4.3 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic Acid:0.8
   mmol/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PARKINSON'S DISEASE
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Improved MS, following
   commands
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Temperature curve
   trending down.  Multiresistent VAP.  Will likely require tracheostomy
   given prolonged illness,
   deconditioning and evidence of recurrent aspiration.
   Fluid overload:  continue to diurese.
   DM II:  WIll need increased lantus 15U, glucose has been high.
   Thrombocytopenia:  PF4+, await SRA.
   HTN:  increase lopressor for ectopy.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-7**] 07:38 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: changing to
   increased dose of glargine
   Lines:
   Multi Lumen - [**2168-12-1**] 06:30 PM
   Arterial Line - [**2168-12-1**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2168-12-08 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -increased standing insulin dose NPH to glargine
   -increased lopressor to 25 TID, after 8pm dose, combined with 500cc
   negative for day pt became hypotensive with SBP in 70s, HR in 70s,
   responded to 1,250cc bolus and decreased sedation
   -d/ced lopressor
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Antibiotics:
   Vancomycin
   Meropenem
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to assess
   Flowsheet Data as of  [**2168-12-8**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.4
   HR: 79 (65 - 89) bpm
   BP: 85/45(57) {77/41(51) - 146/73(98)} mmHg
   RR: 21 (15 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 6 (6 - 9)mmHg
   Total In:
                                                                  4,399 mL
                                                                    663 mL
   PO:
   TF:
                                                                  1,428 mL
                                                                    376 mL
   IVF:
                                                                  2,241 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  3,655 mL
                                                                    350 mL
   Urine:
                                                                  3,655 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    744 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 486 (362 - 486) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 91
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   SpO2: 94%
   ABG: 7.50/42/77/33/7 (2:45am on A/C)
   Repeat ABG in am on PSV: 7.47/46/95/34/8
   Ve: 9.2 L/min
   PaO2 / FiO2: 257
   Physical Examination
   Gen: sedated and intubated, responds to light tactile stimulus.
   HEENT: PEERL. No scleral icterus. ET tube in place
   NECK: supple, no LAD, R IJ in place dressing c/d/i
   CV: RRR
   LUNGS: rhonchorous anteriorly R>L
   ABD: normoactive bowel sounds, soft with reducible small umbilical
   hernia, small, tender superficial mass in LLQ (likely hematoma)
   EXT: DP and radial pulses 2+ bilaterally, no peripheral edema, R art
   line
   SKIN: No new rashes/lesions, stable healing ecchymoses over abdomen
   NEURO: Intubated and sedated. Intermittent rhythmic tremor stable.
   Labs / Radiology
   176 K/uL
   9.2 g/dL
   152 mg/dL
   1.6 mg/dL
   33 mEq/L
   3.7 mEq/L
   41 mg/dL
   101 mEq/L
   140 mEq/L
   27.7 %
   7.3 K/uL
        [image002.jpg]
                             [**2168-12-5**]  03:37 PM
                             [**2168-12-5**]  04:31 PM
                             [**2168-12-6**]  03:48 AM
                             [**2168-12-6**]  03:55 AM
                             [**2168-12-6**]  01:43 PM
                             [**2168-12-6**]  10:18 PM
                             [**2168-12-7**]  02:31 AM
                             [**2168-12-7**]  06:33 PM
                             [**2168-12-8**]  02:43 AM
                             [**2168-12-8**]  02:47 AM
   WBC
   6.4
   8.5
   7.3
   Hct
   27.2
   27.5
   28.5
   27.7
   Plt
   174
   189
   176
   Cr
   1.9
   1.8
   1.8
   1.7
   1.6
   TCO2
   35
   34
   36
   34
   34
   Glucose
   173
   206
   173
   180
   152
   Other labs:
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   BCx: [**12-1**] negative, [**12-3**] and [**12-4**] pending
   UCx: one negative, one w/yeast
   Sputum Cx w/Klebsiella
   Assessment and Plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia now with respiratory failure and
   fever.
   .
   #1 Respiratory failure: Sputum culture growing Klebsiella, sensitive to
   meropenem.  Tolerating CPAP/PS well on 5 PEEP for long periods.  Fever
   is resolved now and secretions have decreased.  Will continue to treat
   PNA, and aggressive chest PT given thick secretions.  Given multiple
   failed extubations in past complicated w/aspiration and inability to
   clear secretions with cough likely will need tacheostomy for extended
   weaning and suction ability. Mentioned to family [**12-6**] will discuss
   further today. If family agrees will call thoracic surgery to place
   tracheostomy and likely peg at same time. Vanco trough 18.4.
   - continue meropenem  for 14 day course through [**12-14**], vanco 750mg IV
   q24 through [**12-16**]
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs prn
   .
   #2 Altered mental status: Sedated on vent with sedation. Mental status
   has improved slightly but it is difficult to assess while on sedation.
   With vent weaning, will continue to go down on sedation as tolerated
   and follow mental status.
   .
   # Acute on chronic renal insufficiency: Muddy brown casts on spun urine
   likely ATN. Cr improving. Vanco dosing changed based on renal failure,
   high troughs.
   - monitor creatinine, UOP
   - renally dose medications
   - diuresis held because
   .
   #Hypotension: BP down to 70
s systolic after third dose of Metoprolol
   25mg given. Patient had also been diuresed yesterday which likely
   contributed to hypotension. Improved with 1.25 L NS. Was afebrile.
   -          decrease Metoprolol to 12.5 TID
   -          hold diuresis
   -          IVF prn
   .
   # Ectopy: Decreased ectopy after started metoprolol but BP dropped
   severely after Metoprolol increased to TID, so will
   - Increased metoprolol to 25 TID
   .
   #Shock: Fever has resolved. One episode of hypotension but unlikely due
   to sepsis. Now hemodynamically stable.  Actively treating Klebsiella
   PNA. Yeast on urine culture [**12-4**], foley was replaced.
   - follow fever curve
   - IVF as needed
   - ABx as above
   - RIJ, Aline in place
   - PICC placement today?
   .
   #Metabolic alkalosis: Likely [**2-6**] diuresis, insensible loss, and likely
   a relative metabolic alkalosis because of compensation for chronic CO2
   retention and over-ventillation on vent. Improved on repeat ABG.
   .
   # Thrombocytopenia: HIT antibody positive, off all heparin products,
   lines flushed yesterday.  Today platelets slowly recovering. -Pending
   serotonin release assay for confirmation.
   .
   # INR elevation: INR 1.4 stable.  Likely nutritional in nature. Not
   actively bleeding, will hold off on vitamin K and follow coags.
   - follow coags
   .
   # UGI bleed: Resolved.  No bloody output from NG today. Monitoring
   coags. On PPI.
   - PPI qd
   .
   # Type 2 DM: FS still elevated dispite NPH and ISS
   - changed to 15 glargine and ISS increased
   - fingersticks four times daily
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis: continue
   on vancomycin and following blood cultures.
   - continue vancomycin (Planned course until [**12-16**])
   - follow blood cultures
   - trough goal 15-20 per ID
   .
   # Parkinson's disease: Continue carbidopa/levodopa and ropinirole for
   now.  Dose adjusted yesterday, will continue to monitor for tremor
   improvement.
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Starting tube feeds as per nutrition recs from prior admission.
   Repleting electrolytes as needed. Multivitamin
   .
   # PPx: PPI, bowel regimen, pneumoboots, start fondoperinox.
   .
   # ACCESS: R IJ CVL, right A line, PIV
   - PICC today?
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: ICU care for now.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-8**] 12:23 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-12-1**] 06:30 PM
   Arterial Line - [**2168-12-1**] 06:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-08 10:14:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo man with aspiration pneumonia.
   24 Hour Events:
   hypotensive overnight with increased lopressor dose and diuresis.
   Required 1.5L IVF resuscitation.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-7**] 08:30 PM
   Meropenem - [**2168-12-8**] 12:23 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   sinemet
   prevacid
   MVI
   calcitriol
   lipitor
   atrovent
   levoxyl
   asa
   chlorhex
   insulin
   glargine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-8**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 77 (65 - 89) bpm
   BP: 102/52(67) {77/41(51) - 143/73(98)} mmHg
   RR: 18 (15 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 5 (5 - 9)mmHg
   Total In:
                                                                  4,399 mL
                                                                    892 mL
   PO:
   TF:
                                                                  1,428 mL
                                                                    500 mL
   IVF:
                                                                  2,241 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  3,655 mL
                                                                    390 mL
   Urine:
                                                                  3,655 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    744 mL
                                                                    502 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 489 (347 - 489) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 91
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 94%
   ABG: 7.50/42/77/33/7
   Ve: 9.2 L/min
   PaO2 / FiO2: 257
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: mildy
   b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, firm s/q nodules c/w
   hematomas from heparin
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed, sleepy, arousable, moving extremities to command
   Labs / Radiology
   9.2 g/dL
   176 K/uL
   152 mg/dL
   1.6 mg/dL
   33 mEq/L
   3.7 mEq/L
   41 mg/dL
   101 mEq/L
   140 mEq/L
   27.7 %
   7.3 K/uL
        [image002.jpg]
                             [**2168-12-5**]  03:37 PM
                             [**2168-12-5**]  04:31 PM
                             [**2168-12-6**]  03:48 AM
                             [**2168-12-6**]  03:55 AM
                             [**2168-12-6**]  01:43 PM
                             [**2168-12-6**]  10:18 PM
                             [**2168-12-7**]  02:31 AM
                             [**2168-12-7**]  06:33 PM
                             [**2168-12-8**]  02:43 AM
                             [**2168-12-8**]  02:47 AM
   WBC
   6.4
   8.5
   7.3
   Hct
   27.2
   27.5
   28.5
   27.7
   Plt
   174
   189
   176
   Cr
   1.9
   1.8
   1.8
   1.7
   1.6
   TCO2
   35
   34
   36
   34
   34
   Glucose
   173
   206
   173
   180
   152
   Other labs: PT / PTT / INR:16.1/48.8/1.4, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:72.0 %, Lymph:18.2 %, Mono:5.0
   %, Eos:4.3 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic Acid:0.8
   mmol/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Respiratory failure:  Aspiration PNA due to ESBL Klebs.  Has
   defervesced.  Because of recurrent aspiration, believe that
   tracheostomy his
   his best chance for starting his rehabilitation and preventing
   recurrent aspiration PNAs.
   Can try and decrease Peep.
   MRSA/enterococcus endocarditis:  On vanco until [**12-16**].
   Fluid overload:  can try and start diuresis again later if BP remains
   stable.
   ectopy:  continue lopressor tid at lower dose.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-12-1**] 06:30 PM
   Arterial Line - [**2168-12-1**] 06:32 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2168-12-09 05:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2168-12-8**] 12:30 PM
 MULTI LUMEN - STOP [**2168-12-8**] 09:30 PM
 EKG - At [**2168-12-9**] 12:09 AM
     * evaluated by thoracics -> add-on for trach/peg tomorrow, family
       aware
     * pre-op labs sent, including ekg and T&S
     * need to call wife when we know when he will go for surgery so she
       can come first
     * started fondoperinox for dvt prophylaxis
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-8**] 08:00 PM
   Meropenem - [**2168-12-8**] 11:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-9**] 05:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.9
   HR: 93 (72 - 101) bpm
   BP: 106/55(70) {94/50(64) - 155/77(103)} mmHg
   RR: 20 (18 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 11 (4 - 14)mmHg
   Total In:
                                                                  3,511 mL
                                                                    294 mL
   PO:
   TF:
                                                                  1,500 mL
   IVF:
                                                                  1,046 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    320 mL
   Urine:
                                                                  1,675 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,836 mL
                                                                    -26 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 380 (269 - 489) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 95%
   ABG: 7.47/46/95.[**Numeric Identifier 252**]/30/8
   Ve: 10 L/min
   PaO2 / FiO2: 317
   Gen: sedated and intubated, responds to light tactile stimulus.
   HEENT: PEERL. No scleral icterus. ET tube in place
   NECK: supple, no LAD, R IJ in place dressing c/d/i
   CV: RRR
   LUNGS: rhonchorous anteriorly R>L
   ABD: normoactive bowel sounds, soft with reducible small umbilical
   hernia, small, tender superficial mass in LLQ (likely hematoma)
   EXT: DP and radial pulses 2+ bilaterally, no peripheral edema, R art
   line
   SKIN: No new rashes/lesions, stable healing ecchymoses over abdomen
   NEURO: Intubated and sedated. Intermittent rhythmic tremor stable.
   Labs / Radiology
   198 K/uL
   9.3 g/dL
   126 mg/dL
   1.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   41 mg/dL
   102 mEq/L
   141 mEq/L
   28.1 %
   5.2 K/uL
        [image002.jpg]
                             [**2168-12-6**]  03:48 AM
                             [**2168-12-6**]  03:55 AM
                             [**2168-12-6**]  01:43 PM
                             [**2168-12-6**]  10:18 PM
                             [**2168-12-7**]  02:31 AM
                             [**2168-12-7**]  06:33 PM
                             [**2168-12-8**]  02:43 AM
                             [**2168-12-8**]  02:47 AM
                             [**2168-12-8**]  10:01 AM
                             [**2168-12-9**]  03:31 AM
   WBC
   6.4
   8.5
   7.3
   5.2
   Hct
   27.5
   28.5
   27.7
   28.1
   Plt
   174
   189
   176
   198
   Cr
   1.9
   1.8
   1.8
   1.7
   1.6
   1.6
   TCO2
   34
   36
   34
   34
   34
   Glucose
   173
   206
   173
   180
   152
   126
   Other labs: PT / PTT / INR:15.6/43.4/1.4, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:72.2 %, Lymph:17.5 %, Mono:5.1
   %, Eos:4.7 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic Acid:0.8
   mmol/L, Ca++:9.0 mg/dL, Mg++:2.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia now with respiratory failure and
   fever.
   .
   #1 Respiratory failure: Sputum culture growing Klebsiella, sensitive to
   meropenem.  Tolerating CPAP/PS well on 5 PEEP for long periods.  Fever
   is resolved now and secretions have decreased.  Will continue to treat
   PNA, and aggressive chest PT given thick secretions.  Given multiple
   failed extubations in past complicated w/aspiration and inability to
   clear secretions with cough likely will need tacheostomy for extended
   weaning and suction ability. Mentioned to family [**12-6**] will discuss
   further today. If family agrees will call thoracic surgery to place
   tracheostomy and likely peg at same time. Vanco trough 18.4.
   - continue meropenem  for 14 day course through [**12-14**], vanco 750mg IV
   q24 through [**12-16**]
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs prn
   .
   #2 Altered mental status: Sedated on vent with sedation. Mental status
   has improved slightly but it is difficult to assess while on sedation.
   With vent weaning, will continue to go down on sedation as tolerated
   and follow mental status.
   .
   # Acute on chronic renal insufficiency: Muddy brown casts on spun urine
   likely ATN. Cr improving. Vanco dosing changed based on renal failure,
   high troughs.
   - monitor creatinine, UOP
   - renally dose medications
   - diuresis held because
   .
   #Hypotension: BP down to 70
s systolic after third dose of Metoprolol
   25mg given. Patient had also been diuresed yesterday which likely
   contributed to hypotension. Improved with 1.25 L NS. Was afebrile.
   -          decrease Metoprolol to 12.5 TID
   -          hold diuresis
   -          IVF prn
   .
   # Ectopy: Decreased ectopy after started metoprolol but BP dropped
   severely after Metoprolol increased to TID, so will
   - Increased metoprolol to 25 TID
   .
   #Shock: Fever has resolved. One episode of hypotension but unlikely due
   to sepsis. Now hemodynamically stable.  Actively treating Klebsiella
   PNA. Yeast on urine culture [**12-4**], foley was replaced.
   - follow fever curve
   - IVF as needed
   - ABx as above
   - RIJ, Aline in place
   - PICC placement today?
   .
   #Metabolic alkalosis: Likely [**2-6**] diuresis, insensible loss, and likely
   a relative metabolic alkalosis because of compensation for chronic CO2
   retention and over-ventillation on vent. Improved on repeat ABG.
   .
   # Thrombocytopenia: HIT antibody positive, off all heparin products,
   lines flushed yesterday.  Today platelets slowly recovering. -Pending
   serotonin release assay for confirmation.
   .
   # INR elevation: INR 1.4 stable.  Likely nutritional in nature. Not
   actively bleeding, will hold off on vitamin K and follow coags.
   - follow coags
   .
   # UGI bleed: Resolved.  No bloody output from NG today. Monitoring
   coags. On PPI.
   - PPI qd
   .
   # Type 2 DM: FS still elevated dispite NPH and ISS
   - changed to 15 glargine and ISS increased
   - fingersticks four times daily
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis: continue
   on vancomycin and following blood cultures.
   - continue vancomycin (Planned course until [**12-16**])
   - follow blood cultures
   - trough goal 15-20 per ID
   .
   # Parkinson's disease: Continue carbidopa/levodopa and ropinirole for
   now.  Dose adjusted yesterday, will continue to monitor for tremor
   improvement.
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Starting tube feeds as per nutrition recs from prior admission.
   Repleting electrolytes as needed. Multivitamin
   .
   # PPx: PPI, bowel regimen, pneumoboots, start fondoperinox.
   .
   # ACCESS: R IJ CVL, right A line, PIV
   - PICC today?
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: ICU care for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2168-12-1**] 06:32 PM
   PICC Line - [**2168-12-8**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-09 10:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2168-12-8**] 12:30 PM
 MULTI LUMEN - STOP [**2168-12-8**] 09:30 PM
 EKG - At [**2168-12-9**] 12:09 AM
   patient npo for tracheostomy today given persistent respiratory failure
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-8**] 08:00 PM
   Meropenem - [**2168-12-8**] 11:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-9**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.5
C (99.5
   HR: 91 (78 - 101) bpm
   BP: 137/67(92) {90/44(60) - 155/77(103)} mmHg
   RR: 31 (18 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 11 (4 - 14)mmHg
   Total In:
                                                                  3,511 mL
                                                                    432 mL
   PO:
   TF:
                                                                  1,500 mL
   IVF:
                                                                  1,046 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    730 mL
   Urine:
                                                                  1,675 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,836 mL
                                                                   -298 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 338 (269 - 434) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 54
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: ///30/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Patient with improved alterness this morning
   Labs / Radiology
   9.3 g/dL
   198 K/uL
   126 mg/dL
   1.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   41 mg/dL
   102 mEq/L
   141 mEq/L
   28.1 %
   5.2 K/uL
        [image002.jpg]
                             [**2168-12-6**]  03:48 AM
                             [**2168-12-6**]  03:55 AM
                             [**2168-12-6**]  01:43 PM
                             [**2168-12-6**]  10:18 PM
                             [**2168-12-7**]  02:31 AM
                             [**2168-12-7**]  06:33 PM
                             [**2168-12-8**]  02:43 AM
                             [**2168-12-8**]  02:47 AM
                             [**2168-12-8**]  10:01 AM
                             [**2168-12-9**]  03:31 AM
   WBC
   6.4
   8.5
   7.3
   5.2
   Hct
   27.5
   28.5
   27.7
   28.1
   Plt
   174
   189
   176
   198
   Cr
   1.9
   1.8
   1.8
   1.7
   1.6
   1.6
   TCO2
   34
   36
   34
   34
   34
   Glucose
   173
   206
   173
   180
   152
   126
   Other labs: PT / PTT / INR:15.6/43.4/1.4, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:72.2 %, Lymph:17.5 %, Mono:5.1
   %, Eos:4.7 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic Acid:0.8
   mmol/L, Ca++:9.0 mg/dL, Mg++:2.8 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR--[**2168-12-8**]-
   Picc in position, ETT at 6cm above carina, moderate patchy infiltrates,
   right sided plaque unchanged
   Assessment and Plan
   66 yo male wtih persistent ventilatory failure in the setting of likely
   aspiration related pneumonia with plans for tracheostomy today.  He has
   had reasonable stability of hemodynamics but remains with continued
   poor mental status, persistent secretions and concern for recurrent
   respiratory failure and with plans for tracheostomy today.
   1)Respiratory Failure-Klebsiella PNA
   -Trach today
   -Continued treatment for VAP
   -Versed at 1mg/hr
   -Vanco/Meropenem
   2)Thrombocytopenia-Sertonin Release Assay is negative on testing today.
   -Will discuss with heme but patient unlikely to have HIT active as
   explanation for platelet drop
   -Would favor continuation of non-heparin prophylaxis but will discuss
   with Heme
   3)Sepsis/Endocarditis
   -Vanco to continue through to [**12-16**]
   Additional active issues to be managed as defined in the housestaff
   note of this date.
 PARKINSON'S DISEASE
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2168-12-1**] 06:32 PM
   PICC Line - [**2168-12-8**] 12:30 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2168-12-10 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2168-12-9**] 02:00 PM
 OR RECEIVED - At [**2168-12-9**] 04:30 PM
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-9**] 07:49 PM
   Meropenem - [**2168-12-9**] 11:48 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2168-12-10**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-10**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 98 (71 - 98) bpm
   BP: 140/68(94) {90/48(62) - 143/71(98)} mmHg
   RR: 31 (18 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,027 mL
                                                                     72 mL
   PO:
             TF:
   IVF:
                                                                    897 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    510 mL
   Urine:
                                                                  1,285 mL
                                                                    445 mL
   NG:
   65 mL
   Stool:
   Drains:
   Balance:
                                                                   -258 mL
                                                                   -438 mL
   Respiratory support
   O2 Delivery Device: None, Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 255 (255 - 338) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 105
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.51/37/96.[**Numeric Identifier 7**]/29/5
   Ve: 8.8 L/min
   PaO2 / FiO2: 323
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   219 K/uL
   8.9 g/dL
   107 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.0 mEq/L
   38 mg/dL
   103 mEq/L
   142 mEq/L
   26.3 %
   6.1 K/uL
        [image002.jpg]
                             [**2168-12-6**]  10:18 PM
                             [**2168-12-7**]  02:31 AM
                             [**2168-12-7**]  06:33 PM
                             [**2168-12-8**]  02:43 AM
                             [**2168-12-8**]  02:47 AM
                             [**2168-12-8**]  10:01 AM
                             [**2168-12-9**]  03:31 AM
                             [**2168-12-10**]  03:00 AM
                             [**2168-12-10**]  03:40 AM
                             [**2168-12-10**]  05:05 AM
   WBC
   8.5
   7.3
   5.2
   6.1
   Hct
   28.5
   27.7
   28.1
   26.3
   Plt
   189
   176
   198
   219
   Cr
   1.8
   1.8
   1.7
   1.6
   1.6
   1.4
   TCO2
   34
   34
   34
   32
   31
   Glucose
   [**Telephone/Fax (3) 3099**]52
   126
   107
   Other labs: PT / PTT / INR:15.8/44.7/1.4, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:72.2 %, Lymph:17.5 %, Mono:5.1
   %, Eos:4.7 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic Acid:0.8
   mmol/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia now with respiratory failure and
   fever.
   .
   #1 Respiratory failure: Sputum culture growing Klebsiella, sensitive to
   meropenem.  Tolerating CPAP/PS well on 5 PEEP for long periods.  Fever
   is resolved now and secretions have decreased.  Will continue to treat
   PNA, and aggressive chest PT given thick secretions.  Given multiple
   failed extubations in past complicated w/aspiration and inability to
   clear secretions with cough will need tacheostomy for extended weaning
   and suction ability. Evaluated by thoracics last night, to OR today for
   trach/peg.
   - continue meropenem  for 14 day course through [**12-14**], vanco 750mg IV
   q24 through [**12-16**]
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs prn
   - evaluate fluid status post-op and diurese as is appropriate
   .
   #2 Altered mental status: Sedated on vent with sedation. Mental status
   has improved slightly but it is difficult to assess while on sedation.
   With vent weaning, will continue to go down on sedation as tolerated
   and follow mental status.
   .
   # Acute on chronic renal insufficiency: Muddy brown casts on spun urine
   likely ATN. Cr improving. Vanco dosing changed based on renal failure,
   high troughs.
   - monitor creatinine, UOP
   - renally dose medications
   - diuresis held because of Hx of hypotension/renal failure
   .
   #Hypotension: BP down to 70
s systolic 2 days ago after third dose of
   Metoprolol 25mg given. Patient had also been diuresed which likely
   contributed to hypotension. Improved with 1.25 L NS. Was afebrile.  BP
   has been stable since.
   -          Metoprolol low dose 12.5 TID
   -          hold diuresis
   -          IVF prn
   .
   # Ectopy: Decreased ectopy after started metoprolol but BP dropped
   severely after Metoprolol increased to TID, so will keep low dose for
   now.
   .
   #Shock: Fever has resolved. One episode of hypotension but unlikely due
   to sepsis. Now hemodynamically stable.  Actively treating Klebsiella
   PNA. Yeast on urine culture [**12-4**], foley was replaced.
   - follow fever curve
   - IVF as needed
   - ABx as above
   - Aline, picc in place
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis: continue
   on vancomycin and following blood cultures.
   - continue vancomycin (Planned course until [**12-16**])
   - follow blood cultures
   - trough goal 15-20 per ID
   .
   #Metabolic alkalosis: Likely [**2-6**] diuresis, insensible loss, and likely
   a relative metabolic alkalosis because of compensation for chronic CO2
   retention and over-ventillation on vent. Improved on repeat ABG.
   .
   # Thrombocytopenia: HIT antibody positive, off all heparin products,
   lines flushed yesterday.  Today platelets slowly recovering. Serotonin
   release assay negative but was done 2 days after heparin d/c. Will call
   hematology today to discuss significance/whether patient should or
   should not carry a Dx of HIT.
   .
   # INR elevation: INR 1.4 stable.  Likely nutritional in nature. Not
   actively bleeding, will hold off on vitamin K and follow coags.
   - follow coags
   .
   # UGI bleed: Resolved.  No further bloody output from NG since
   admission.  Likely from oropharyngeal bleeding from difficult
   intubation.  Monitoring coags. On PPI.
   - PPI qd
   .
   # Type 2 DM: FS stabilized with 15 glargine and increased ISS
   - fingersticks four times daily
   .
   # Parkinson's disease: Continue carbidopa/levodopa and ropinirole for
   now.  Dose adjusted yesterday, will continue to monitor for tremor
   improvement.
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Starting tube feeds as per nutrition recs from prior admission.
   Repleting electrolytes as needed. Multivitamin
   .
   # PPx: PPI, bowel regimen, pneumoboots, start fondoperinox.
   .
   # ACCESS: Picc. right A line, PIV
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: ICU care for now.
 HYPOTENSION (NOT SHOCK)
 PARKINSON'S DISEASE
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2168-12-1**] 06:32 PM
   PICC Line - [**2168-12-8**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-11 05:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Fever to 101.9 -> sputum, urine, blood cultures sent.
   - Started TF via PEG
   - versed switched from gtt to bolus
   - hematology consult pending, regarding HIT and fondoparinux
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Antibiotics:
   Vancomycin
   Meropenem
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2168-12-11**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to assess
   Flowsheet Data as of  [**2168-12-11**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
F) (4p)
   Tcurrent: 38.4
C (101.2
F) (6a)
   HR: 99 (75 - 115) bpm
   BP: 136/66(91) {113/50(73) - 167/84(114)} mmHg
   RR: 31 (22 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,146 mL
                                                                    657 mL
   PO:
             TF:
                                                                     58 mL
                                                                    102 mL
   IVF:
                                                                    603 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    350 mL
   Urine:
                                                                  1,530 mL
                                                                    350 mL
   NG:
                                                                     65 mL
   Stool:
   Drains:
   Balance:
                                                                   -449 mL
                                                                    307 mL
   Respiratory support
   O2 Delivery Device: None, Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 396 (342 - 478) mL
   PS : 10 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 105
   PIP: 16 cmH2O
   SpO2: 100%
   ABG:
   Ve: 12.4 L/min
   PaO2 / FiO2: 260
   Physical Examination
   GEN: sleepy, opens eyes to stimulation, very slight movement of toes
   b/l to command
   HEENT: PEERL, anicteric, pink conjunctiva, trach is place
   CV: RRR S1S2 no murmurs auscultated
   PULM: coarse breath sounds bilaterally
   ABD: soft nondistended, does not grimace w/palpation, hypoactive bs,
   reducible umbilical hernia stable, new PEG site c/d/i
   EXT: warm, 2+ dp pulses, trace edema b/l LE
   Neurologic: slight tremor noted b/l UE. Moves toes very slightly b/l to
   command
   Labs / Radiology
   225 K/uL
   9.0 g/dL
   149 mg/dL
   1.4 mg/dL
   29 mEq/L
   3.5 mEq/L
   33 mg/dL
   105 mEq/L
   142 mEq/L
   27.8 %
   10.3 K/uL
        [image002.jpg]
                             [**2168-12-7**]  06:33 PM
                             [**2168-12-8**]  02:43 AM
                             [**2168-12-8**]  02:47 AM
                             [**2168-12-8**]  10:01 AM
                             [**2168-12-9**]  03:31 AM
                             [**2168-12-10**]  03:00 AM
                             [**2168-12-10**]  03:40 AM
                             [**2168-12-10**]  05:05 AM
                             [**2168-12-10**]  04:41 PM
                             [**2168-12-11**]  04:10 AM
   WBC
   7.3
   5.2
   6.1
   10.3
   Hct
   27.7
   28.1
   26.3
   27.8
   Plt
   176
   198
   219
   225
   Cr
   1.7
   1.6
   1.6
   1.4
   1.4
   TCO2
   34
   34
   32
   31
   31
   Glucose
   180
   152
   126
   107
   149
   Other labs:
   PT / PTT / INR:17.5/49.5/1.6
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Vanco trough 15.6
   UA: many yeast w/hyphae, 21-50 WBC, >50 RBC
   UCx [**12-10**] pending
   Sputum GS [**12-10**]: G- diplococci
   BCx all negative or pending
   CXR: slight improvement of R sided infiltrate
   Assessment and Plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia with respiratory failure and fever,
   now s/p trach and PEG placement.
   .
   #1 Respiratory failure: Secondary to Aspiration PNA w/Klebsiella,
   sensitive to meropenem.  Tracheostomy placed due to aspiration in
   setting of recent extubation and copious secretions w/poor cough
   strength. No complications with trachestomy, tolerating CPAP/PS well on
   PEEP of 5.  He continues to have bloody secretions in vent tube but
   they have decreased in quantity.  Treating pneumonia w/meropenem and
   aggressive chest PT.  Also on IV vancomycin, for
   bacteremia/endocarditis.  Now w/sputum gram stain showing G -
   diplococci, although no further speciation has been completed at this
   time.  Unclear whether this could be acinetobacter that has been
   previously grown from patient
s sputum (can appear as diplococci at
   times).
   - follow sputum cultures for speciation/sensitivity
   - continue meropenem  for 14 day course through [**12-14**]
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs prn
   .
   #2 Altered mental status: Sedated on vent with sedation. Mental status
   has improved slightly but it is difficult to assess while on sedation.
   With vent weaning, will continue to go down on sedation as tolerated
   and follow mental status.
   -off drip and monitor the requirement for prn boluses, if less than q3
   can d/c drip
   .
   #3 Fever: Unclear cause. Patient with yeast in urine but unlikely cause
   for fever. Now 48h post-op so unlikely due to recent tracheostomy.
   Sputum gram stain with GNR, but unclear whether this is an infection
   vs. colonization.
   -          follow UCx
   -          follow  BCx
   -          follow Sputum Cx
   -          consult w/ID regarding treating funguria
   .
   #4 UTI: yeast in urine w/WBC. Usually represents colonization, but
   patient has had foley changed once already and still has yeast in
   urine.
   -re-change foley
   -call ID re treating with fluconozole.
   .
   #4 Acute on chronic renal insufficiency: ATN in setting of sepsis.
   Creatinine continues to improve as well as fluid status.
   - monitor creatinine, UOP
   - renally dose medications
   .
   # Thrombocytopenia: HIT antibody positive, off all heparin products,
   lines flushed yesterday.  Today platelets slowly recovering. Serotonin
   release assay negative but was done 2 days after heparin d/c. Will call
   hematology today to discuss significance/whether patient should or
   should not carry a Dx of HIT.
   -heme consult recs
   .
   # Ectopy: Decreased ectopy after started metoprolol but BP dropped
   severely after Metoprolol increased to TID, so will keep low dose for
   now.
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis: continue
   on vancomycin and following blood cultures.
   - continue vanco 750mg IV q24 through [**12-16**]
   - follow blood cultures
   - trough goal 15-20 per ID
   .
   # INR elevation: INR 1.4 stable.  Likely nutritional in nature. Not
   actively bleeding, will hold off on vitamin K and follow coags.
   - follow coags
   .
   # Type 2 DM: FS stabilized with 15 glargine and increased ISS
   - fingersticks four times daily
   .
   # Parkinson's disease: Continue carbidopa/levodopa and ropinirole for
   now.  Dose adjusted yesterday, will continue to monitor for tremor
   improvement.
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Tube feeds via peg. Repleting electrolytes as needed.
   Multivitamin.
   .
   # PPx: PPI, bowel regimen, pneumoboots.  Discuss with hematology RE
   fondoparinux
   .
   # ACCESS: PICC. PIV. Can pull A-line.
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: call out to floor, ? rehabilitation screening
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-10**] 06:10 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2168-12-1**] 06:32 PM
   PICC Line - [**2168-12-8**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   ATTENDING ADDENDUM:
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above and below.
   Tracheostomy done Friday for chronic respiratory failure and secretions
   management.
   Yeast on UA. Sputum GS  gram neg diplococci.
   Unclear source for fever. Will be on meropenem, vanco (until [**12-16**]).
   Empiric dose fluconazole for funguria. Foley already changed.
   D/C A-line.
   Mental status remains altered. Unresponsive on my exam, though moved
   toes to command for Dr [**Last Name (STitle) 3127**].
   Goal to move to [**Hospital1 **]/rehab in next few days.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2168-12-11**] 13:48 ------

2168-12-12 05:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.5
F - [**2168-12-11**] 08:00 AM -> not pan-cultured b/c did so
   yesterday
     * Called ID re funguria and fever [**Last Name (LF) **], [**First Name3 (LF) 124**] see Monday and evaluate

 eval
d pt
     * CDiff sent
     * A-line d/c, tip sent
     * Heme recs this AM
     * Wife would prefer he go to [**Location (un) 3131**] in [**Location (un) **] (closer to her
       house, they have heard good things)
     * Should have passy-muir valve eval by S&S before leaving
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2168-12-11**] 07:31 PM
   Meropenem - [**2168-12-12**] 01:19 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2168-12-11**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-12**] 05:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.5
   HR: 99 (85 - 104) bpm
   BP: 121/62(75) {107/56(69) - 127/76(87)} mmHg
   RR: 30 (20 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,672 mL
                                                                    712 mL
   PO:
             TF:
                                                                    909 mL
                                                                    372 mL
   IVF:
                                                                    583 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                    295 mL
   Urine:
                                                                  1,415 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,257 mL
                                                                    417 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 409 (294 - 560) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 153
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 11.2 L/min
   Physical Examination
   GEN: sleepy
   HEENT: trach is place
   CV: RRR S1S2 no murmurs auscultated
   PULM: coarse breath sounds bilaterally
   ABD: soft nondistended, does not grimace w/palpation, hypoactive bs,
   reducible umbilical hernia stable, new PEG site c/d/i
   EXT: warm, 2+ dp pulses, trace edema b/l LE
   Neurologic: sleepy, unable to elicit exam
   Labs / Radiology
   240 K/uL
   9.3 g/dL
   155 mg/dL
   1.3 mg/dL
   30 mEq/L
   4.0 mEq/L
   30 mg/dL
   105 mEq/L
   144 mEq/L
   27.9 %
   10.0 K/uL
        [image002.jpg]
   N: 83.4  L: 10.3
                             [**2168-12-8**]  02:43 AM
                             [**2168-12-8**]  02:47 AM
                             [**2168-12-8**]  10:01 AM
                             [**2168-12-9**]  03:31 AM
                             [**2168-12-10**]  03:00 AM
                             [**2168-12-10**]  03:40 AM
                             [**2168-12-10**]  05:05 AM
                             [**2168-12-10**]  04:41 PM
                             [**2168-12-11**]  04:10 AM
                             [**2168-12-12**]  03:43 AM
   WBC
   7.3
   5.2
   6.1
   10.3
   10.0
   Hct
   27.7
   28.1
   26.3
   27.8
   27.9
   Plt
   176
   198
   219
   225
   240
   Cr
   1.6
   1.6
   1.4
   1.4
   1.3
   TCO2
   34
   34
   32
   31
   31
   Glucose
   152
   126
   107
   149
   155
   Other labs: PT / PTT / INR:16.9/55.3/1.5, CK / CKMB /
   Troponin-T:44//0.07, Differential-Neuts:83.4 %, Band:0.0 %, Lymph:10.3
   %, Mono:3.0 %, Eos:3.0 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   [**12-12**] CXR
 unchanged from [**12-11**] CXR
   [**12-11**] UA
 39 WBCs, > 1 epi
s, small LE and bact, negative for yeast,
   LE, nitr
   [**12-11**] stool
 c-diff neg
   [**12-11**] cath tip
 no growth thus far
   [**12-10**] sputum
 Gram (-) rods on cx, gram (-) diplococci on gram stain
   [**12-10**] urine
 yeast
   [**12-10**] blood cx
 no growth thus far
   Assessment and Plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia with respiratory failure and fever,
   now s/p trach and PEG placement.
   .
   # Respiratory failure: Secondary to Aspiration PNA w/Klebsiella,
   sensitive to meropenem.  Tracheostomy placed due to aspiration in
   setting of recent extubation and copious secretions w/poor cough
   strength. No complications with trachestomy, tolerating CPAP/PS well on
   PEEP of 5.  Min secretions on suctioning.  Treating pneumonia w/
   meropenem and aggressive chest PT.  Also on IV vancomycin, for
   bacteremia/endocarditis.  Sputum gram stain showing G (-) diplococci,
   cx with gram (-) rods (two strains) Considering acinetobacter based on
   previous growth from patient
s sputum.
   - follow sputum cultures for speciation/sensitivity
   - continue meropenem  for 14 day course through [**12-14**]
   - starting unasyn for presumptive acinetobacter
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs prn
   # Fever: Unclear cause. Patient with yeast in urine but unlikely cause
   for fever. Now 48h post-op so unlikely due to recent tracheostomy.
   Sputum gram stain with GNR, but unclear whether this is an infection
   vs. colonization.
   -          last UA negative for yeast, LE, nitr
   -          follow  BCx
   -          follow Sputum Cx
   -          no need to tx funguria per ID.
   .
   # Altered mental status: Sedated on vent with sedation. Mental status
   has improved slightly but it is difficult to assess while on sedation.
   With vent weaning, will continue to go down on sedation as tolerated
   and follow mental status.
   -off drip and monitor the requirement for prn boluses, if less than q3
   can d/c drip
   .
   # UTI: No yeast in last UA. Contaminated with epi
s. Prior yeast may be
   colonization, but patient has had foley changed once already and no
   yeast in urine.
   -re-change foley.
   .
   # Acute on chronic renal insufficiency: ATN in setting of sepsis.
   Creatinine improving with fluid status.
   - monitor creatinine, UOP
   - renally dose medications
   .
   # Thrombocytopenia: HIT antibody positive, off all heparin products,
   lines flushed yesterday.  Platelets recovering. Serotonin release assay
   negative but was done 2 days after heparin d/c.
   - Heme
 continue Fondaparinux and use for subsequent hospitalizations,
   no direct discussion of HIT
   .
   # Ectopy: Decreased ectopy after started metoprolol but BP dropped
   severely after Metoprolol increased to TID.  Now on low dose metoprolol
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis: continue
   on vancomycin and following blood cultures.
   - continue vanco 750mg IV q24 through [**12-16**]
   - follow blood cultures
   - trough goal 15-20 per ID
   .
   # INR elevation: INR 1.5 stable.  Likely nutritional in nature. Not
   actively bleeding, will hold off on vitamin K and follow coags.
   .
   # Type 2 DM: FS stabilized with 15 glargine and increased ISS.  No
   changes.
   - fingersticks four times daily
   .
   # Parkinson's disease: Continue carbidopa/levodopa and ropinirole for
   now.  Dose adjusted yesterday, will continue to monitor for tremor
   improvement.
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Tube feeds via peg. Repleting electrolytes as needed.
   Multivitamin.
   .
   # PPx: PPI, bowel regimen, pneumoboots.  Cont  fondoparinux
   .
   # ACCESS: PICC. PIV. Pulled A-line.
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: call out to floor, ? rehabilitation screening
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-12**] 02:18 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-12-8**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Correction to plan re: PNA
   - will hold off starting Unasyn for presumed Acinetobacter until cx
   results are more definitive
   Re: Fever w/u
   - will repeat UA b/c last sample was contaminated with epi
   ------ Protected Section Addendum Entered By:[**Name (NI) 3137**] [**Name (NI) 3138**], MD
   on:[**2168-12-12**] 14:01 ------

2168-12-13 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2168-12-13**] 12:44 AM
 FEVER - 102.0
F - [**2168-12-12**] 08:00 PM
   -Grew out Acinetobacter- d/c meropenem and start unasyn and tobramycin.
   will need a peak/trough after 4th dose
   -fungus on UA
   -LFts slightly elevated, trend w/ AM labs
   -tachycardic to 177, NSVT, then reverted back to NSR
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Meropenem - [**2168-12-12**] 01:32 PM
   Vancomycin - [**2168-12-12**] 07:58 PM
   Tobramycin - [**2168-12-12**] 09:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2168-12-13**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Carbidopa-Levodopa
   Metoprolol
   Alteplase cath clearance
   ISS
   Fondaparinux
   Lansoprazole
   Colace
   Albuterol
   Tylenol
   MVI
   Calcitriol
   Atorvastatin
   Ropinirole
   Ipratropium
   Miconazole
   Levothryoxine
   ASA
   Senna
   Bisacodyl
   Chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-13**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.5
C (101.3
   HR: 98 (86 - 108) bpm
   BP: 119/75(86) {91/43(52) - 124/90(94)} mmHg
   RR: 26 (14 - 39) insp/min
   SpO2: 100% (99-100)
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,235 mL
                                                                    891 mL
   PO:
             TF:
                                                                  1,355 mL
                                                                    321 mL
   IVF:
                                                                    750 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,540 mL
                                                                    360 mL
   Urine:
                                                                  1,540 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,695 mL
                                                                    531 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 338 (338 - 440) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 12 L/min
   Physical Examination
   GEN: lying NAD opening eyes, moving toes on command
   HEENT: trach is place
   CV: RRR S1S2 no murmurs auscultated
   PULM: coarse breath sounds bilaterally
   ABD: soft nondistended, does not grimace w/palpation, hypoactive bs,
   reducible umbilical hernia stable, new PEG site c/d/i
   EXT: warm, 2+ dp pulses, trace edema b/l LE
   Neurologic: sleepy, unable to elicit exam. Tremor appears worsened.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Tele, briefly SVT to 170s.
   Labs / Radiology
   244 K/uL
   8.7 g/dL
   149 mg/dL
   1.2 mg/dL
   31 mEq/L
   3.9 mEq/L
   29 mg/dL
   106 mEq/L
   145 mEq/L
   27.0 %
   10.1 K/uL
        [image002.jpg]
   [**12-12**] CXR: free air [**2-6**] PEG, bibasilar atelectesis, 12/ 9 free air
   resolved
   UA 223 WBC many back and yest, 5 epi
   Micro: [**12-10**] sputum Acinotobacter sensi to tobramycin and unasyn, and
   GNR
   [**12-13**] blood pending
   [**12-12**] urine pending
   [**12-10**] urine yeast
   [**12-11**] cdiff neg
                             [**2168-12-8**]  02:47 AM
                             [**2168-12-8**]  10:01 AM
                             [**2168-12-9**]  03:31 AM
                             [**2168-12-10**]  03:00 AM
                             [**2168-12-10**]  03:40 AM
                             [**2168-12-10**]  05:05 AM
                             [**2168-12-10**]  04:41 PM
                             [**2168-12-11**]  04:10 AM
                             [**2168-12-12**]  03:43 AM
                             [**2168-12-13**]  02:56 AM
   WBC
   7.3
   5.2
   6.1
   10.3
   10.0
   10.1
   Hct
   27.7
   28.1
   26.3
   27.8
   27.9
   27.0
   Plt
   176
   198
   219
   [**Telephone/Fax (3) 3147**]
   Cr
   1.6
   1.6
   1.4
   1.4
   1.3
   1.2
   TCO2
   34
   32
   31
   31
   Glucose
   152
   126
   107
   149
   155
   149
   Other labs: PT / PTT / INR:16.9/49.4/1.5, CK / CKMB /
   Troponin-T:44//0.07, ALT / AST:23/79, Alk Phos / T Bili:95/0.4, Amylase
   / Lipase:67/61, Differential-Neuts:83.4 %, Band:0.0 %, Lymph:10.3 %,
   Mono:3.0 %, Eos:3.0 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia with respiratory failure and fever,
   now s/p trach and PEG placement.
   .
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   : Secondary to Aspiration PNA w/Klebsiella, sensitive to meropenem.
   Tracheostomy placed due to aspiration in setting of recent extubation
   and copious secretions w/poor cough strength  Min secretions on
   suctioning.  Treating pneumonia w/ meropenem and aggressive chest PT.
   Also on IV vancomycin, for bacteremia/endocarditis.  [**12-10**]  Sputum grew
   Acineoobacter  similar to  previous growth from patient
s sputum.
   Sensitive to tobramycin and unasyn. Culture also grew GNR
   -f/u sputum GNR ID
   - discontinued  meropenem  after 12 day course
   - started on tobramycin and unasyn. Tobra dose decreased from 240mg [**Hospital1 **]
   to 300 q24h per pharm. Last infection pt was on 300mg q48h.  Checking
   Tobra peak and trough. To discuss dose with ID.
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs prn
   -Pt tachypnic on [**10-9**] although oxygenating well. PS increased to 15
   with a decrease in RR.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   : Likely [**2-6**] to new acinobactor PNA. Fever had previously subsided but
   after trach has had increasing WBC and new fever coinsiding with new
   sputum cult.. Patient with yeast in urine but unlikely cause for fever.
   Finished course for Klebsiella PNA. To finish Vanco for endocarditis on
   [**12-16**]. Med list reviewed no obivious suspect for drug fever.
              -  follow  BCx
   -          follow Sputum Cx
   -          no need to tx funguria per ID.
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   : Had been on vent with sedation. Now off all sedation, mental status
   has improved slightly opening eyes and following commands. However pt
   remains non-verbal and less active compared with last admission.
   Possible new acute change in MS [**2-6**] new infection. Exacerbation of
   parkinsons also possible
   -monitor MS for improvement as treating infection
   .
   # UTI: Many Bac and yeast on  UA. Contaminated with epi
s. Yeast likely
   colonization, patient has had foley changed once already since + yeast.
   Urine cultures NG so far
   -f/u urine cultures
   .
   # Acute on chronic renal insufficiency: ATN in setting of sepsis.
   Creatinine improving down to 1.2
   - monitor creatinine, UOP
   .
   # Thrombocytopenia: HIT antibody positive, off all heparin products,
   Platelets recovering. Serotonin release assay negative but was done 2
   days after heparin d/c.
   - Heme
 continue Fondaparinux and use for subsequent hospitalizations,
   no direct discussion of HIT
   .
   # Ectopy: Decreased ectopy after started metoprolol but BP dropped
   severely after Metoprolol increased to TID likely [**2-6**] aggressive
   diuresis that day.  Now on low dose metoprolol
   - SVT to 170s, increased metoprolol to 25mg, monitor BP carefully
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis: continue
   on vancomycin and following blood cultures.
   - continue vanco 750mg IV q24 through [**12-16**]
   - follow blood cultures
   - trough goal 15-20 per ID
   -f/u trough
   .
   # INR elevation: INR 1.5 stable.  Likely nutritional in nature. Not
   actively bleeding, will hold off on vitamin K and follow coags.
   .
   # Type 2 DM: FS stabilized with 15 glargine and increased ISS.  No
   changes.
   - fingersticks four times daily
   .
 PARKINSON'S DISEASE
   : Continue carbidopa/levodopa and ropinirole for now.  Tremor seems to
   be worsening and ? whether Parkinson
s contributing to continued poor
   MS.
   [**Name14 (STitle) 3151**] Carbidopa-Levodopa to 3 Tabs 5x/day given that drug
   absorption may be decreased with protein given in TF.
   - If no improvement in MS with increase plan on consulting neuro
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Tube feeds via peg. Repleting electrolytes as needed.
   Multivitamin.
   .
   # PPx: PPI, bowel regimen, pneumoboots.  Cont  fondoparinux
   .
   # ACCESS: PICC. PIV. Pulled A-line.
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: pending infection control
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-13**] 06:18 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-12-8**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-14 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.1
F - [**2168-12-14**] 12:00 AM
   -vanco trough 13, increased dose to 1000mg IV q24h
   -Tobra decreased to 300mg IV q24h, tobra peak 12 (NL [**6-14**]), continue
   current dose per ID
   - sputum [**12-10**] with acintobacter (sparse Klebsiella), Urine 112/9 with >
   100 K yeast
   -PS increased from 10 to 15 with improvement (decrease) in RR.
   -Sinemet increased yesterday
   - per ID hold calistine until sensitivities come back, consider
   scanning abdomen if fevers worsen
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Meropenem - [**2168-12-12**] 01:32 PM
   Tobramycin - [**2168-12-13**] 09:58 AM
   Vancomycin - [**2168-12-13**] 09:20 PM
   Ampicillin/Sulbactam (Unasyn) - [**2168-12-14**] 02:16 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-14**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.7
C (101.6
   HR: 102 (92 - 107) bpm
   BP: 127/69(82) {94/25(54) - 142/82(92)} mmHg
   RR: 22 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 117.4 kg (admission): 117 kg
   Height: 72 Inch
             Total In:
                                                                  3,392 mL
                                                                    716 mL
   PO:
             TF:
                                                                  1,272 mL
                                                                    326 mL
   IVF:
                                                                  1,000 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,870 mL
                                                                    400 mL
   Urine:
                                                                  2,005 mL
                                                                    400 mL
   NG:
                                                                     65 mL
   Stool:
   Drains:
   Balance:
                                                                    522 mL
                                                                    316 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 628 (352 - 628) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 14.9 L/min
   Physical Examination
   GEN: lying NAD opening eyes, follows with voice, interactive with
   facial movements, moving toes on command
   HEENT: trach is place, blood/purulent material in suction container
   CV: RRR S1S2 no murmurs auscultated
   PULM: coarse breath sounds bilaterally, crackles at bases
   ABD: soft nondistended, does not grimace w/palpation, hypoactive bs,
   reducible umbilical hernia stable, new PEG site c/d/i
   EXT: warm, 2+ dp pulses, trace edema b/l LE
   Neurologic: Tremor appears worsened. Awake and alert.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   248 K/uL
   8.3 g/dL
   147 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.7 mEq/L
   29 mg/dL
   106 mEq/L
   148 mEq/L
   25.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2168-12-8**]  10:01 AM
                             [**2168-12-9**]  03:31 AM
                             [**2168-12-10**]  03:00 AM
                             [**2168-12-10**]  03:40 AM
                             [**2168-12-10**]  05:05 AM
                             [**2168-12-10**]  04:41 PM
                             [**2168-12-11**]  04:10 AM
                             [**2168-12-12**]  03:43 AM
                             [**2168-12-13**]  02:56 AM
                            [**2168-12-14**]  03:15 AM
   WBC
   5.2
   6.1
   10.3
   10.0
   10.1
   7.7
   Hct
   28.1
   26.3
   27.8
   27.9
   27.0
   25.3
   Plt
   198
   219
   225
   [**Telephone/Fax (3) 3164**]
   Cr
   1.6
   1.4
   1.4
   1.3
   1.2
   1.3
   TCO2
   34
   32
   31
   31
   Glucose
   126
   107
   149
   155
   149
   147
   Other labs: PT / PTT / INR:16.9/49.4/1.5, CK / CKMB /
   Troponin-T:44//0.07, ALT / AST:23/106, Alk Phos / T Bili:91/0.4,
   Amylase / Lipase:67/67, Differential-Neuts:83.4 %, Band:0.0 %,
   Lymph:10.3 %, Mono:3.0 %, Eos:3.0 %, D-dimer:3691 ng/mL, Fibrinogen:712
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:281 IU/L, Ca++:8.8
   mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
    [**12-13**] CXR
 free air resrobed from previous CXRs, bibasilar
   opacitifcxation c/w atelectasis
   [**12-11**] and [**12-13**] stool
 C-diff neg
   Assessment and Plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia with respiratory failure and fever,
   now s/p trach and PEG placement.
   .
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   : Secondary to Aspiration PNA w/Klebsiella, sensitive to meropenem.
   Tracheostomy placed due to aspiration in setting of recent extubation
   and copious secretions w/poor cough strength  Min secretions on
   suctioning.  Treating pneumonia w/ meropenem and aggressive chest PT.
   Also on IV vancomycin, for bacteremia/endocarditis.  [**12-10**]  Sputum grew
   Acineoobacter  similar to  previous growth from patient
s sputum.
   Sensitive to tobramycin and unasyn. Culture also grew GNR
   -f/u sputum GNR ID
   - discontinued  meropenem  after 12 day course
   - started on tobramycin and unasyn. Tobra dose decreased from 240mg [**Hospital1 **]
   to 300 q24h per pharm. Last infection pt was on 300mg q48h.  Checking
   Tobra peak and trough.
 Cont 300mg IV per ID
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs prn
   -Pt tachypnic on [**10-9**] although oxygenating well. PS increased to 12
   with a decrease in RR.
   - attempt to sit pt up to better aerate lungs, will hold off tx
   Klebsiella unless clinical picture changes as this is considered a
   colonizer at this point
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   : Likely [**2-6**] to new acinobactor PNA. Fever had previously subsided but
   after trach has had increasing WBC and new fever coinsiding with new
   sputum cult.. Patient with yeast in urine but unlikely cause for fever.
   Finished course for Klebsiella PNA. To finish Vanco for endocarditis on
   [**12-16**]. Med list reviewed no obivious suspect for drug fever.
              -  follow  BCx
 still no growth as of [**12-14**]
   -          follow Sputum Cx
 Klebsiella and  Acinetobacter
   -          no need to tx funguria per ID
   .
   # ALTERED MENTAL STATUS (NOT DELIRIUM)
   : Had been on vent with sedation. Now off all sedation, mental status
   has improved slightly opening eyes and following commands. However pt
   remains non-verbal and less active compared with last admission.
   Possible new acute change in MS [**2-6**] new infection. Exacerbation of
   parkinsons also possible
   -monitor MS for improvement as treating infection
   - Neuro consulted for thoughts about Parkinson
s contribution to AMS
   .
   # PARKINSON'S DISEASE
   : Continue carbidopa/levodopa and ropinirole for now.  Tremor seems to
   be worsening and ? whether Parkinson
s contributing to continued poor
   MS.
   [**Name14 (STitle) 3151**] Carbidopa-Levodopa to 3 Tabs 5x/day given that drug
   absorption may be decreased with protein given in TF.
   - If no improvement in MS with increase plan on consulting neuro
   .
   # UTI: Many Bac and yeast on  UA. Contaminated with epi
s. Yeast likely
   colonization, patient has had foley changed once already since + yeast.
   Urine cultures NG so far
   -f/u urine cultures
 yeast > 100K from [**12-13**]
   .
   # Acute on chronic renal insufficiency: ATN in setting of sepsis.
   Creatinine improving down to 1.2
   - monitor creatinine, UOP
   .
   # Thrombocytopenia: HIT antibody positive, off all heparin products,
   Platelets recovering. Serotonin release assay negative but was done 2
   days after heparin d/c.
   - Heme
 continue Fondaparinux and use for subsequent hospitalizations,
   no direct discussion of HIT
   .
   # Ectopy: Decreased ectopy after started metoprolol but BP dropped
   severely after Metoprolol increased to TID likely [**2-6**] aggressive
   diuresis that day.  Now on low dose metoprolol
   -SVT to 170s, increased metoprolol to 25mg, monitor BP
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis: continue
   on vancomycin and following blood cultures.
   - changed vanco to 1000mg IV q24 through [**12-21**]
   - follow blood cultures
 no growth as of [**12-14**]
   - trough goal 15-20 per ID
   -f/u trough
 last [**12-13**] was 13
 increased Vanco dose accordingly
   .
   # INR elevation: INR 1.5 stable.  Likely nutritional in nature. Not
   actively bleeding, will hold off on vitamin K and follow coags.
   .
   # Type 2 DM: FS stabilized with 15 glargine and increased ISS.  No
   changes.
   - fingersticks four times daily
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Tube feeds via peg. Repleting electrolytes as needed.
   Multivitamin.
   .
   # PPx: PPI, bowel regimen, pneumoboots.  Cont  fondoparinux
   .
   # ACCESS: PICC. PIV. Pulled A-line.
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: pending infection control
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 THROMBOCYTOPENIA, ACUTE
 ENDOCARDITIS, BACTERIAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 PARKINSON'S DISEASE
 H/O HYPOTHYROIDISM
 ELECTROLYTE & FLUID DISORDER, OTHER
 H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-12-8**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-15 05:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
F - [**2168-12-14**] 08:00 AM
   - Neuro to see in AM, [**12-15**] to comment on Parkinson's mgmt
   - on PS of 15 since afternoon - good sats, less tachypneic
   - tremors noted to be more prominent overnight
   - also pulled out trach tube X 3 last night, had to be restrained and
   sedated
   - still producing bloody sputum
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Meropenem - [**2168-12-12**] 01:32 PM
   Tobramycin - [**2168-12-14**] 09:00 AM
   Vancomycin - [**2168-12-14**] 08:23 PM
   Ampicillin/Sulbactam (Unasyn) - [**2168-12-15**] 02:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-15**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.9
C (100.2
   HR: 84 (84 - 103) bpm
   BP: 96/52(63) {74/48(55) - 142/76(103)} mmHg
   RR: 14 (9 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.4 kg (admission): 117 kg
   Height: 72 Inch
             Total In:
                                                                  4,462 mL
                                                                    708 mL
   PO:
             TF:
                                                                  1,968 mL
                                                                    371 mL
   IVF:
                                                                  1,274 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    300 mL
   Urine:
                                                                  1,900 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,562 mL
                                                                    408 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 628 (357 - 654) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 93
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 8.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   240 K/uL
   8.6 g/dL
   146 mg/dL
   1.3 mg/dL
   33 mEq/L
   3.6 mEq/L
   30 mg/dL
   105 mEq/L
   145 mEq/L
   26.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2168-12-9**]  03:31 AM
                             [**2168-12-10**]  03:00 AM
                             [**2168-12-10**]  03:40 AM
                             [**2168-12-10**]  05:05 AM
                             [**2168-12-10**]  04:41 PM
                             [**2168-12-11**]  04:10 AM
                             [**2168-12-12**]  03:43 AM
                             [**2168-12-13**]  02:56 AM
                            [**2168-12-14**]  03:15 AM
                            [**2168-12-15**]  03:49 AM
   WBC
   5.2
   6.1
   10.3
   10.0
   10.1
   7.7
   8.1
   Hct
   28.1
   26.3
   27.8
   27.9
   27.0
   25.3
   26.0
   Plt
   198
   219
   225
   [**Telephone/Fax (3) 3164**]
   240
   Cr
   1.6
   1.4
   1.4
   1.3
   1.2
   1.3
   1.3
   TCO2
   32
   31
   31
   Glucose
   126
   107
   149
   155
   149
   147
   146
   Other labs: PT / PTT / INR:16.8/49.9/1.5, CK / CKMB /
   Troponin-T:44//0.07, ALT / AST:31/103, Alk Phos / T Bili:90/0.4,
   Amylase / Lipase:67/67, Differential-Neuts:83.4 %, Band:0.0 %,
   Lymph:10.3 %, Mono:3.0 %, Eos:3.0 %, D-dimer:3691 ng/mL, Fibrinogen:712
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:267 IU/L, Ca++:9.0
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia with respiratory failure and fever,
   now s/p trach and PEG placement.
   .
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   : Secondary to Aspiration PNA w/Klebsiella, sensitive to meropenem.
   Tracheostomy placed due to aspiration in setting of recent extubation
   and copious secretions w/poor cough strength  Min secretions on
   suctioning.  Treating pneumonia w/ meropenem and aggressive chest PT.
   Also on IV vancomycin, for bacteremia/endocarditis.  [**12-10**]  Sputum grew
   Acineoobacter  similar to  previous growth from patient
s sputum.
   Sensitive to tobramycin and unasyn. Culture also grew GNR
   -f/u sputum GNR ID
   - discontinued  meropenem  after 12 day course
   - started on tobramycin and unasyn. Tobra dose decreased from 240mg [**Hospital1 **]
   to 300 q24h per pharm. Last infection pt was on 300mg q48h.  Checking
   Tobra peak and trough.
 Cont 300mg IV per ID
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs prn
   -Pt tachypnic on [**10-9**] although oxygenating well. PS increased to 12
   with a decrease in RR.
   - attempt to sit pt up to better aerate lungs, will hold off tx
   Klebsiella unless clinical picture changes as this is considered a
   colonizer at this point
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   : Likely [**2-6**] to new acinobactor PNA. Fever had previously subsided but
   after trach has had increasing WBC and new fever coinsiding with new
   sputum cult.. Patient with yeast in urine but unlikely cause for fever.
   Finished course for Klebsiella PNA. To finish Vanco for endocarditis on
   [**12-16**]. Med list reviewed no obivious suspect for drug fever.
              -  follow  BCx
 still no growth as of [**12-14**]
   -          follow Sputum Cx
 Klebsiella and  Acinetobacter
   -          no need to tx funguria per ID
   .
   # ALTERED MENTAL STATUS (NOT DELIRIUM)
   : Had been on vent with sedation. Now off all sedation, mental status
   has improved slightly opening eyes and following commands. However pt
   remains non-verbal and less active compared with last admission.
   Possible new acute change in MS [**2-6**] new infection. Exacerbation of
   parkinsons also possible
   -monitor MS for improvement as treating infection
   - Neuro consulted for thoughts about Parkinson
s contribution to AMS
   .
   # PARKINSON'S DISEASE
   : Continue carbidopa/levodopa and ropinirole for now.  Tremor seems to
   be worsening and ? whether Parkinson
s contributing to continued poor
   MS.
   [**Name14 (STitle) 3151**] Carbidopa-Levodopa to 3 Tabs 5x/day given that drug
   absorption may be decreased with protein given in TF.
   - If no improvement in MS with increase plan on consulting neuro
   .
   # UTI: Many Bac and yeast on  UA. Contaminated with epi
s. Yeast likely
   colonization, patient has had foley changed once already since + yeast.
   Urine cultures NG so far
   -f/u urine cultures
 yeast > 100K from [**12-13**]
   .
   # Acute on chronic renal insufficiency: ATN in setting of sepsis.
   Creatinine improving down to 1.2
   - monitor creatinine, UOP
   .
   # Thrombocytopenia: HIT antibody positive, off all heparin products,
   Platelets recovering. Serotonin release assay negative but was done 2
   days after heparin d/c.
   - Heme
 continue Fondaparinux and use for subsequent hospitalizations,
   no direct discussion of HIT
   .
   # Ectopy: Decreased ectopy after started metoprolol but BP dropped
   severely after Metoprolol increased to TID likely [**2-6**] aggressive
   diuresis that day.  Now on low dose metoprolol
   -SVT to 170s, increased metoprolol to 25mg, monitor BP
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis: continue
   on vancomycin and following blood cultures.
   - changed vanco to 1000mg IV q24 through [**12-21**]
   - follow blood cultures
 no growth as of [**12-14**]
   - trough goal 15-20 per ID
   -f/u trough
 last [**12-13**] was 13
 increased Vanco dose accordingly
   .
   # INR elevation: INR 1.5 stable.  Likely nutritional in nature. Not
   actively bleeding, will hold off on vitamin K and follow coags.
   .
   # Type 2 DM: FS stabilized with 15 glargine and increased ISS.  No
   changes.
   - fingersticks four times daily
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Tube feeds via peg. Repleting electrolytes as needed.
   Multivitamin.
   .
   # PPx: PPI, bowel regimen, pneumoboots.  Cont  fondoparinux
   .
   # ACCESS: PICC. PIV. Pulled A-line.
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: pending infection control
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 THROMBOCYTOPENIA, ACUTE
 ENDOCARDITIS, BACTERIAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 PARKINSON'S DISEASE
 .H/O HYPOTHYROIDISM
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-14**] 08:03 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-12-8**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-12-16 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -tolerated trach mask
   -adjusted sinemet, wrote for seroquel prn agitation
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unknown;
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Tobramycin - [**2168-12-15**] 11:13 AM
   Vancomycin - [**2168-12-15**] 08:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2168-12-16**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2168-12-15**] 09:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-12-16**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.8
   HR: 93 (74 - 106) bpm
   BP: 124/77(87) {88/47(59) - 136/84(100)} mmHg
   RR: 28 (16 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.4 kg (admission): 117 kg
   Height: 72 Inch
             Total In:
                                                                  4,340 mL
                                                                    832 mL
   PO:
             TF:
                                                                  1,560 mL
                                                                    409 mL
   IVF:
                                                                  1,440 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  1,817 mL
                                                                    600 mL
   Urine:
                                                                  1,817 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,523 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///35/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   8.6 g/dL
   183 mg/dL
   1.1 mg/dL
   35 mEq/L
   3.9 mEq/L
   28 mg/dL
   104 mEq/L
   143 mEq/L
   26.1 %
   7.9 K/uL
        [image002.jpg]
                             [**2168-12-10**]  03:00 AM
                             [**2168-12-10**]  03:40 AM
                             [**2168-12-10**]  05:05 AM
                             [**2168-12-10**]  04:41 PM
                             [**2168-12-11**]  04:10 AM
                             [**2168-12-12**]  03:43 AM
                             [**2168-12-13**]  02:56 AM
                            [**2168-12-14**]  03:15 AM
                            [**2168-12-15**]  03:49 AM
                            [**2168-12-16**]  04:00 AM
   WBC
   6.1
   10.3
   10.0
   10.1
   7.7
   8.1
   7.9
   Hct
   26.3
   27.8
   27.9
   27.0
   25.3
   26.0
   26.1
   Plt
   [**Telephone/Fax (3) 3207**]44
   248
   240
   226
   Cr
   1.4
   1.4
   1.3
   1.2
   1.3
   1.3
   1.1
   TCO2
   32
   31
   31
   Glucose
   107
   149
   155
   149
   147
   146
   183
   Other labs: PT / PTT / INR:16.3/52.8/1.5, CK / CKMB /
   Troponin-T:44//0.07, ALT / AST:71/71, Alk Phos / T Bili:93/0.4, Amylase
   / Lipase:67/67, Differential-Neuts:83.4 %, Band:0.0 %, Lymph:10.3 %,
   Mono:3.0 %, Eos:3.0 %, D-dimer:3691 ng/mL, Fibrinogen:712 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:267 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia with respiratory failure and fever,
   now s/p trach and [**Telephone/Fax (3) 1023**] placement.
   .
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   : Secondary to Aspiration PNA w/Klebsiella, sensitive to meropenem.
   Tracheostomy placed due to aspiration in setting of recent extubation
   and copious secretions w/poor cough strength  Min secretions on
   suctioning.  Treating pneumonia w/ meropenem and aggressive chest PT.
   Also on IV vancomycin, for bacteremia/endocarditis.  [**12-10**]  Sputum grew
   Acineoobacter  similar to  previous growth from patient
s sputum.
   Sensitive to tobramycin and unasyn. Culture also grew GNR
   -Acenitobacter treated w/tobramycin (day 2), f/u tobra levels
   - discontinued  meropenem  after 12 day course
   - continue unasym
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs prn
   -continue with trach mask, rest in PM on PS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   : Likely [**2-6**] to new acinobactor PNA. Fever curve seems to be improving.
   Will d/c Tylenol and monitor for improvement now that antibiotic
   regimen has been changed. Cultures still pending but most likely source
   is PNA.
              -  follow  BCx
 still no growth as of [**12-15**]
   -          follow Sputum Cx
 Klebsiella and  Acinetobacter
   -          yeast in urine- no need to tx funguria per ID
   .
   # ALTERED MENTAL STATUS (NOT DELIRIUM)
   : Significantly improved since yesterday afternoon w/episode of
   agitation (? Sundowning) overnight. Will d/c sedation and write for
   zydis prn. Could also be secondary to underlying infection or
   undertreated PD.
   -zydis prn agitation
   - f/u neuro recs
   .
   # PARKINSON'S DISEASE
   : Consulted neuro to see if we are properly treating PD
   -f/u recs
   -continue current regimen
   .
   # UTI: Many Bac and yeast on  UA. Contaminated with epi
s. Yeast likely
   colonization, patient has had foley changed once already since + yeast.
   -will not treat at this time give ID recs
   .
   # Acute on chronic renal insufficiency: ATN in setting of sepsis.
   Creatinine improving down to 1.3
   - monitor creatinine, UOP
   .
   # Thrombocytopenia: HIT antibody positive, off all heparin products,
   Platelets recovering. Serotonin release assay negative but was done 2
   days after heparin d/c. Stable.
   - Heme
 continue Fondaparinux and use for subsequent hospitalizations,
   no direct discussion of HIT
   .
   # Ectopy: Decreased ectopy after started metoprolol but BP dropped
   severely after Metoprolol increased to TID likely [**2-6**] aggressive
   diuresis that day.  Now on low dose metoprolol. Continues to have
   ectopy but no runs of SVT today.
   -metoprolol  25mg, monitor BP
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis: continue
   on vancomycin and following blood cultures.
   - changed vanco to 1000mg IV q24 through [**12-21**]
   - follow blood cultures
 no growth as of [**12-15**]
   - trough goal 15-20 per ID
   .
   # INR elevation: INR 1.4 stable.  Likely nutritional in nature. Not
   actively bleeding, will hold off on vitamin K and follow coags.
   .
   # Type 2 DM: FS stabilized with 15 glargine and increased ISS.  No
   changes.
   - fingersticks four times daily
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Tube feeds via [**Date Range **]. Repleted K and Mg. Multivitamin.
   .
   # PPx: PPI, bowel regimen, pneumoboots.  Cont  fondoparinux
   .
   # ACCESS: PICC. PIV. Pulled A-line.
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: if stable should start screening for rehabilitation
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 THROMBOCYTOPENIA, ACUTE
 ENDOCARDITIS, BACTERIAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 PARKINSON'S DISEASE
 .H/O HYPOTHYROIDISM
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-12-16**] 02:43 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-12-8**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Critical Care
   Present for key portions of history and exam. Agree with assessment and
   plan as outlined by Dr. [**Last Name (STitle) 3213**] above. He has improved neurologically as
   fever improved. Able to hold off on treating Klebsiella with Colistin
   seems recent decomp just due to Acinetobacter. Following Neuro reqs re
   Parkinson
s Dis.
   Now tolerating trache collar.
   Time spent
 35 min
   ------ Protected Section ------
   [**12-16**] exam
   GEN: NAD, alert and responding to commands
   HEENT:NCAT MMM anicteric trach in place
   CV: RRR S1S2 no m/r/g
   PULM: coarse throughout w/scant wheezes in mid-lung fields
   ABD: soft, nondistended [**Last Name (LF) 3195**], [**First Name3 (LF) 1023**] c/d/i
   EXT: warm, well perfused
   [**12-16**] plan
   A/P: This is a 66 y/o man with recent subdural hematoma, recent strep
   bovis/MRSA/enterococcus bacteremia and recent admission to the MICU for
   altered mental status and pneumonia with respiratory failure and fever,
   now s/p trach and [**Month/Year (2) 1023**] placement.
   .
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   : Secondary to Aspiration PNA w/Klebsiella, sensitive to meropenem.
   Tracheostomy placed due to aspiration in setting of recent extubation
   and copious secretions w/poor cough strength  Min secretions on
   suctioning.  Treated pneumonia w/ 12 day course of  meropenem and
   aggressive chest PT.  Also on IV vancomycin, for
   bacteremia/endocarditis.  [**12-10**]  Sputum grew Acineoobacter  similar to
   previous growth from patient
s sputum. Sensitive to tobramycin and
   unasyn.
   -Acenitobacter treated w/tobramycin and Unasyn to finish 14 day course
   on [**12-26**]
   - discontinued  meropenem  after 12 day course
   - aggressive chest PT and pulmonary toilet
   - atrovent/albuterol nebs prn
   -continue with trach mask, rest as needed on PS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   : Likely [**2-6**] to new acinobactor PNA. Fever curve seems to be improving.
   Now afebrile for > 24 hrs. .  Cultures still pending but most likely
   source is PNA.
              -  follow  BCx
 still no growth as of [**12-15**]
   -          follow Sputum Cx
 Klebsiella and  Acinetobacter
   -          yeast in urine- no need to tx funguria per ID
   -          Fever broke since started tobra and unasyn.
   .
   # ALTERED MENTAL STATUS (NOT DELIRIUM)
   : Significantly improved since yesterday afternoon w/episode of
   agitation (? Sundowning) overnight. Will d/c sedation and write for
   zydis prn. Could also be secondary to underlying infection or
   undertreated PD.
   - f/u neuro recs, recommended change in sinemet dosage. Suggested
   Seroquel rather than zyprexa.
   - this am MS greatly improved, mouthing words, following commands,
   tremor improved.
   .
   # PARKINSON'S DISEASE
   - recs as above
   -f/u recs
   -continue current regimen
   .
   # UTI: Many Bac and yeast on  UA. Contaminated with epi
s. Yeast likely
   colonization, patient has had foley changed once already since + yeast.
   -will not treat at this time give ID recs
   .
   # Acute on chronic renal insufficiency: ATN in setting of sepsis.
   Creatinine improving down to 1.1
   - monitor creatinine, UOP
   .
   # Thrombocytopenia: HIT antibody positive, off all heparin products,
   Platelets recovering. Serotonin release assay negative but was done 2
   days after heparin d/c. Stable.
   - Heme
 continue Fondaparinux and use for subsequent hospitalizations,
   labeling as HIT for discharge
   .
   # Ectopy: Decreased ectopy after started metoprolol but BP dropped
   severely after Metoprolol increased to TID likely [**2-6**] aggressive
   diuresis that day.  Now on low dose metoprolol.
   -metoprolol  12.5mg TID
   .
   # MRSA/Enterococcus bacteremia with aortic valve endocarditis: continue
   on vancomycin and following blood cultures.
   - changed vanco to 1000mg IV q24 through [**12-21**]
   - follow blood cultures
 no growth as of [**12-15**]
   - trough goal 15-20 per ID
   .
   # INR elevation: INR 1.4 stable.  Likely nutritional in nature. Not
   actively bleeding, will hold off on vitamin K and follow coags.
   .
   # Type 2 DM: FS stabilized with 15 glargine and increased ISS.  No
   changes.
   - fingersticks four times daily
   .
   # Hypothyroidism: Continue levothyroxine.
   .
   # FEN: Tube feeds via [**Date Range **]. Repleted K and Mg. Multivitamin.
   .
   # PPx: PPI, bowel regimen, pneumoboots.  Cont  fondoparinux
   .
   # ACCESS: PICC.. Pulled A-line.
   .
   # CODE: Full code, confirmed with wife. Consent for ICU in chart.
   .
   # COMM: With patient and family. Wife [**Name (NI) 625**] is HCP. Phone #
   [**Telephone/Fax (1) 2577**].
   .
   # DISP: to rehab today
   ------ Protected Section Addendum Entered By:[**Name (NI) 164**] [**Last Name (NamePattern1) 3172**], MD
   on:[**2168-12-16**] 15:38 ------